2126-11-08 08:02:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2126-11-7**] 12:52 PM
 URINE CULTURE - At [**2126-11-7**] 05:14 PM
   Renal consulted last night, plan for possible HD today.
   Transplant Surgery passed by, stated they will not be transplanting.
   Bladder pressure done last night showed pressure of 40.  Paracentesis
   attempted x 2 at bedside without success.  Radiology was called and U/S
   guided paracentesis was done by Radiology fellow, with removal of 4L
   serous ascitic fluid.  Cell count with < 250 PMN.
   Hypotensive to 80s 2 hours s/p paracentesis.  500cc IVF bolus given,
   1uPRBC given, BP elevated to 90s s/p transfusion.  Decreased to 80s
   again at 6am.  Albumin 100gm ordered.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2126-11-7**] 04:45 PM
   Cefipime - [**2126-11-7**] 09:00 PM
   Metronidazole - [**2126-11-8**] 12:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2126-11-7**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-11-8**] 07:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36
C (96.8
   Tcurrent: 35.1
C (95.1
   HR: 51 (51 - 58) bpm
   BP: 91/46(57) {82/38(48) - 139/121(125)} mmHg
   RR: 15 (14 - 27) insp/min
   SpO2: 95%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 63 Inch
    Bladder pressure: 10 (10 - 40) mmHg
   Total In:
                                                                  1,719 mL
                                                                  1,431 mL
   PO:
   TF:
   IVF:
                                                                    475 mL
                                                                    678 mL
   Blood products:
                                                                  1,124 mL
                                                                    753 mL
   Total out:
                                                                    100 mL
                                                                  4,020 mL
   Urine:
                                                                    100 mL
                                                                     20 mL
   NG:
   Stool:
   Drains:
                                                                  4,000 mL
   Balance:
                                                                  1,619 mL
                                                                 -2,589 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///13/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   84 K/uL
   9.3 g/dL
   62 mg/dL
   2.0 mg/dL
   13 mEq/L
   5.5 mEq/L
   114 mg/dL
   101 mEq/L
   135 mEq/L
   26.9 %
   8.4 K/uL
        [image002.jpg]
                            [**2126-11-7**]  12:09 PM
                            [**2126-11-7**]  09:25 PM
                            [**2126-11-8**]  05:51 AM
   WBC
   10.5
   9.1
   8.4
   Hct
   25.3
   25.2
   26.9
   Plt
   107
   97
   84
   Cr
   1.2
   2.7
   2.0
   Glucose
   66
   68
   62
   Other labs: PT / PTT / INR:29.9/54.0/2.9, ALT / AST:69/157, Alk Phos /
   T Bili:75/47.9, Lactic Acid:2.6 mmol/L, Ca++:10.0 mg/dL, Mg++:3.7
   mg/dL, PO4:7.5 mg/dL
   Assessment and Plan
   58 year old woman with prolonged hospital course after initial
   admission for lower GI bleeding in the setting of elevated INR and
   decompensated liver failure from cryptogenic / idiopathic cirrhosis now
   transferred back to the MICU for epistaxis.
   # ARF:  patient with Cr bump to 2.7 overnight.  Bladder pressure done
   and showed pressure of 40.  Paracentesis was done and 4L of ascitic
   fluid taken out.  Bladder pressure 10 s/p para.  Per renal, urine
   sediment consistent with ATN, likely not HRS.
   -- f/u renal consult
   -- cont midodrine 7.5mg TID
   -- cont Octreotide 100mcg TID
   -- plan for HD today
   # Hypotension:  patient hypotensive s/p para overnight, likely [**1-28**]
   fluid shifts.  Responded well to PRBC
   -- cont to monitor, check HCT [**Hospital1 7**]
   # Hypothermia:  Patient hypothermic over the past few days.  Started on
   Empiric Vanco/Cefepmine on [**11-6**].  Flagyl started on [**10-25**].  Micafungin
   started on [**11-6**] for +yeast in urine.  Cell count on paracentesis
   negative for SBP.  Otherwise, no source of infection has been
   identified.
   -- cont abx for now until cultures are finalized
   -- consult ID for assistance with antibiotics
   -- f/u blood cultures, urine cultures
   #. CIRRHOSIS / TRANSPLANT : Continued decompensation, MELD 47 yesterday
   morning.  +coagulopathy and NGT were likely cause of epistaxis
   yesterday.  Transplant surgery following and stated that surgery is on
   hold until patient stabilizes from infection.
   - F/U hepatology recs
   # Coagulopathy:  likely from known cirrhosis.  INR down to 2.9 from 7.5
   yesterday, after 6uFFP.  will give 2 more units of FFP to continue
   correction of coagulopathy given need for HD line placement.  will also
   order ddavp for treatment of uremic platelets, as well as 1u of
   platelets.
   -- 2u FFP
   -- ddAVP 40mcg x 1
   -- 1u platelets
   # Epistaxis:  ENT consulted and found +excoriation in bilateral nares,
   likely [**1-28**] NGT and doboff.  Surgicell placed, bleeding currently
   stopped so no need for nasal packing at this time.
   - f/u ENT recs
   - afrin if continues to bleed
   - HCT stable will check [**Hospital1 7**]
   - transfuse if HCT < 21
   #. GI BLEEDING: Secondary to portal hypertension and rectal varices. No
   active bleeding at this time, no futher intervention anticipated
   - Hct Q12H for now
   #. VAGINAL BLEEDING: Had vaginal bleeding in ICU a few weeks ago,
   evaluated by [**Last Name (LF) 3180**], [**First Name3 (LF) **] f/u with primary team. Patient noted to have
   small amount of vaginal bleeding overnight.
   #. ENCEPHALOPATHY: Lactulose, rifaximin, titrate to 3 bowel movements
   per day.
   FEN: NPO for now, replete lytes, Nutrition consult for TF recs
   PPX:
   -DVT ppx with pneumoboots given active bleeding
   -Bowel regimen with lactulose
   -PPI
   ACCESS: PICC
   CODE STATUS: Full Code
   EMERGENCY CONTACT: [**Name (NI) 215**] (Daughter) [**Telephone/Fax (1) **] / cell [**Telephone/Fax (1) 1278**]
   DISPOSITION: ICU

2126-11-08 08:41:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - Epistaxis resolved
   - Bladder pressure 40 overnight - IR paracentesis 4L - bladder pressure
   decreased to 10, still anuric. Creatinine from 1.2 to 2.7 with elevated
   bladder pressure, then down to 2.0 after tap
   - Surgery - transplant on hold for now, but may be relisted if recovers
   - Hypotensive intermittently overnight - blood and albumin responsive
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2126-11-7**] 04:45 PM
   Cefipime - [**2126-11-7**] 09:00 PM
   Metronidazole - [**2126-11-8**] 12:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2126-11-7**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-11-8**] 08:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36
C (96.8
   Tcurrent: 35.1
C (95.1
   HR: 51 (51 - 58) bpm
   BP: 91/46(57) {82/38(48) - 139/121(125)} mmHg
   RR: 15 (14 - 27) insp/min
   SpO2: 95%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 63 Inch
   Bladder pressure: 10 (10 - 40) mmHg
   Total In:
                                                                  1,719 mL
                                                                  1,438 mL
   PO:
   TF:
   IVF:
                                                                    475 mL
                                                                    685 mL
   Blood products:
                                                                  1,124 mL
                                                                    753 mL
   Total out:
                                                                    100 mL
                                                                  4,020 mL
   Urine:
                                                                    100 mL
                                                                     20 mL
   NG:
   Stool:
   Drains:
                                                                  4,000 mL
   Balance:
                                                                  1,619 mL
                                                                 -2,582 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///13/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   9.3 g/dL
   84 K/uL
   62 mg/dL
   2.0 mg/dL
   13 mEq/L
   5.5 mEq/L
   114 mg/dL
   101 mEq/L
   135 mEq/L
   26.9 %
   8.4 K/uL
        [image002.jpg]
                            [**2126-11-7**]  12:09 PM
                            [**2126-11-7**]  09:25 PM
                            [**2126-11-8**]  05:51 AM
   WBC
   10.5
   9.1
   8.4
   Hct
   25.3
   25.2
   26.9
   Plt
   107
   97
   84
   Cr
   1.2
   2.7
   2.0
   Glucose
   66
   68
   62
   Other labs: PT / PTT / INR:29.9/54.0/2.9, ALT / AST:69/157, Alk Phos /
   T Bili:75/47.9, Lactic Acid:2.6 mmol/L, Ca++:10.0 mg/dL, Mg++:3.7
   mg/dL, PO4:7.5 mg/dL
   Imaging: No new imaging.
   Microbiology: C. diff negativee.  Peritoneal fluid cultures pending.
   Urine/blood pending.
   Assessment and Plan
   58 year old woman with prolonged hospital course after initial
   admission requiring ICU stay and intubation for lower GI bleeding and
   vaginal bleeding in the setting of elevated INR and decompensated liver
   failure from cryptogenic / idiopathic cirrhosis now transferred back to
   the MICU for epistaxis and oliguria/hypotension.
   # ARF:  Patient with Cr bump and oliguric for the past 3 days,
   concerning for HRS, but urine sediment more consistent with ATN.  Acute
   worsening overnight in the setting of elevated bladder
   pressure/compartment syndrome, which resolved with paracentesis, but no
   improvement in renal failure.  Now acidotic and hyperkalemic.
   - Plan for HD line placement today with initiation of CVVHD
   - On midodrine and octreotide
   - Daily bladder pressures
   # Hypotension: Likely multifactorial, but main components include fluid
   shifts and epistaxis.  The hypotension, coupled with hypothermia, is
   concerning for underlying sepsis, perhaps fungemia.  Stool occult
   positive.
   - Continue PRBC and albumin as needed for volume resucictation
   - Continue micafungin - Day 3.  Send glucan/galactomannan. F/U Fungal
   isolators.
   - Continue IV vanc/cefepime since - Day 3.  Flagyl - Day 13
   - F/U all cultures, will need empiric antifungal coverage
   A line today, follow daily lactates
   # Cirrhosis: Decompensed ESLD, MELD 47 on [**11-7**].
   - F/U hepatology recs
   - Not currently listed, but surgery will continue to follow
   # Coagulopathy: Likely from known cirrhosis.
   - Continue FFP, ddAVP, PRBC as needed
   - [**Hospital1 7**] Hcts, goal >21
   # Epistaxis:  ENT consulted and found escoriation in bilateral nares,
   likely [**1-28**] NGT and doboff in setting of coagulopathy. Now stable.
   - Appreciate ENT recs
   - Afrin if continues to bleed
   # GI Bleed: Secondary to portal hypertension and rectal varices. No
   active bleeding at this time, although stool occult positive.
   - Hct Q12H for now
   # Vaginal bleed: Had vaginal bleeding in ICU a few weeks ago, evaluated
   by [**Last Name (LF) 3180**], [**First Name3 (LF) **] f/u with primary team.  No issues currently.
   # Encephalopathy: Continue lactulose and rifaximin. HD today.
   ICU Care
   Nutrition: Nutrition consult for TF
   Glycemic Control:
   Lines:
   PICC Line - [**2126-11-7**] 12:52 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:  hepatology staff to speak with family
   regarding overall goals of care/ candidacy for transplant
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2126-11-09 07:39:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   24 Hour Events:
 DIALYSIS CATHETER - START [**2126-11-8**] 01:28 PM
 ARTERIAL LINE - START [**2126-11-8**] 08:00 PM
   ~10 point Hct drop with rectal bleeding, got 2U PRBCs, FFP, platelets
   ID Consult re fungemia, antifungal coverage started although low
   suspicion
   Worsening bradycardia overnight
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Fluconazole - [**2126-11-8**] 12:00 PM
   Vancomycin - [**2126-11-8**] 06:00 PM
   Cefipime - [**2126-11-8**] 08:00 PM
   Micafungin - [**2126-11-8**] 09:26 PM
   Metronidazole - [**2126-11-9**] 12:00 AM
   Infusions:
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Octreotide - 50 mcg/hour
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2126-11-8**] 08:00 AM
   Dextrose 50% - [**2126-11-8**] 08:00 AM
   Other medications:
   Vanco, Cefepime, Flagyl, Micafungin, Rifaximin, Midodrine
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-11-9**] 07:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 35.9
C (96.6
   HR: 48 (46 - 61) bpm
   BP: 90/49(64) {84/44(59) - 114/56(78)} mmHg
   RR: 13 (13 - 26) insp/min
   SpO2: 96%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 63 Inch
   Bladder pressure 10
             Total In:
                                                                  4,135 mL
                                                                    891 mL
   PO:
             TF:
             148 mL
   IVF:
                                                                  1,837 mL
                                                                    684 mL
   Blood products:
                                                                  2,093 mL
   Total out:
                                                                  4,382 mL
                                                                  1,513 mL
   Urine:
                                                                     66 mL
                                                                     12 mL
   NG:
   Stool:
   Drains:
                                                                  4,000 mL
                                                                    400 mL
   Balance:
                                                                   -247 mL
                                                                   -622 mL
   Respiratory support
   O2 Delivery Device: Face tent 2L
   SpO2: 96%
   ABG: 7.33/22/98.[**Numeric Identifier 176**]/12/-10
   PaO2 / FiO2: 280
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL, sclera icteric
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), bradycardic, RR
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   )
   Abdominal: Soft, Non-tender, Distended, positive fluid wave
   Skin:  Not assessed no rashes
   Neurologic: Responds to: voice, minimally verbal, Movement: Not
   assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   9.6 g/dL
   102 K/uL
   94 mg/dL
   2.6 mg/dL
   12 mEq/L
   5.0 mEq/L
   92 mg/dL
   103 mEq/L
   136 mEq/L
   27.2 %
   9.8 K/uL
        [image002.jpg]
                            [**2126-11-7**]  12:09 PM
                            [**2126-11-7**]  09:25 PM
                            [**2126-11-8**]  05:51 AM
                            [**2126-11-8**]  11:53 AM
                            [**2126-11-8**]  04:38 PM
                            [**2126-11-8**]  06:31 PM
                            [**2126-11-8**]  08:05 PM
                            [**2126-11-8**]  10:58 PM
                            [**2126-11-8**]  11:10 PM
                            [**2126-11-9**]  02:18 AM
   WBC
   10.5
   9.1
   8.4
   9.8
   Hct
   25.3
   25.2
   26.9
   20.9
   25.9
   27.5
   27.6
   27.2
   Plt
   107
   97
   84
   92
   102
   Cr
   1.2
   2.7
   2.0
   1.8
   1.8
   2.6
   TCO2
   13
   Glucose
   66
   68
   62
   71
   82
   94
   Other labs: PT / PTT / INR:29.9/54.2/3.0, ALT / AST:63/134, Alk Phos /
   T Bili:64/47.7, Fibrinogen:108 mg/dL, Lactic Acid:3.0 mmol/L, LDH:286
   IU/L, Ca++:9.8 mg/dL, Mg++:3.3 mg/dL, PO4:5.7 mg/dL
   Urine Culture
 [**First Name5 (NamePattern1) 1354**] [**Last Name (NamePattern1) 8824**]
   Urine Culture
 Enterococcus
   Assessment and Plan
   58 year old woman with prolonged hospital course after initial
   admission requiring ICU stay and intubation for lower GI bleeding and
   vaginal bleeding in the setting of elevated INR and decompensated liver
   failure from cryptogenic / idiopathic cirrhosis now transferred back to
   the MICU for epistaxis and oliguria/hypotension.
   #Bradycardia: Worsening over the last 24hrs, sinus.
   - Follow, if drops MAPs, consider intropic [**Doctor Last Name **]
   # ARF:  Patient with Cr bump and oliguric for the past 3 days,
   concerning for HRS, but urine sediment more consistent with ATN.  Acute
   worsening overnight in the setting of elevated bladder
   pressure/compartment syndrome, which resolved with paracentesis, but no
   improvement in renal failure.  Now acidotic and hyperkalemic.
   - On CVVH, try to run negative if hemodynamically tolerated
   - On midodrine and octreotide
   - Daily bladder pressures
   # Hypotension: Likely multifactorial, but main components include fluid
   shifts and epistaxis.  In the setting of hypothermia, significant
   concern for underlying sepsis, perhaps fungemia.  Stool occult
   positive.
   -- Goal MAPs > 55
   - Continue PRBC and albumin as needed for volume resucictation
   - Continue micafungin - Day 4.  Send glucan/galactomannan. F/U Fungal
   isolators.
   - Continue IV vanc/cefepime since - Day 4.  Flagyl - Day 14
   - F/U all cultures
   -- Appreciate ID input
   -- Has A line ([**11-8**]), q6h lactates
   # Cirrhosis: Decompensed ESLD, MELD 47 on [**11-7**].
   - F/U hepatology recs
   - Not currently listed, but surgery will continue to follow
   # Coagulopathy: Likely from known cirrhosis.
   - q6h Hcts and coags, goal >25
   - Continue FFP, ddAVP, PRBC as needed
   # Epistaxis:  ENT consulted and found escoriation in bilateral nares,
   likely [**1-28**] NGT and doboff in setting of coagulopathy. Now stable.
   - Appreciate ENT recs
   - Afrin if continues to bleed
   # GI Bleed: Secondary to portal hypertension and rectal varices. No
   active bleeding at this time, although stool occult positive.
   - Hct Q6H for now
   - on octreotide
   # Vaginal bleed: Had vaginal bleeding in ICU a few weeks ago, evaluated
   by OBGYN thought to have benign endometrial disease, will f/u with
   primary team.  No issues currently.
   # Encephalopathy: Continue lactulose and rifaximin. HD today.
   Minimally responsive
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2126-11-9**] 12:15 AM 20 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2126-11-7**] 12:52 PM
   Dialysis Catheter - [**2126-11-8**] 01:28 PM
   Arterial Line - [**2126-11-8**] 08:00 PM
   Prophylaxis:
   DVT: P-boots
   Stress ulcer: IV PPI
   VAP: Head of bed elevated
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU for now
   Total time spent:  30min

2126-11-09 08:12:00 Physician Resident Progress Note
Chief Complaint: Decompensated liver failure
   24 Hour Events:
 DIALYSIS CATHETER - START [**2126-11-8**] 01:28 PM -subclavian
 ARTERIAL LINE - START [**2126-11-8**] 08:00 PM
   6 point HCT drop yesterday
   passed moderate sized clot from rectum
   got 2 u PRBCs, and FFP
   -ID recs: Glucan, galactomannan sent, fungal blood cultures
   -approved Micafungin
   -has [**First Name5 (NamePattern1) **] [**Last Name (NamePattern1) 8824**] in urine
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Fluconazole - [**2126-11-8**] 12:00 PM
   Vancomycin - [**2126-11-8**] 06:00 PM
   Cefipime - [**2126-11-8**] 08:00 PM
   Micafungin - [**2126-11-8**] 09:26 PM
   Metronidazole - [**2126-11-9**] 07:48 AM
   Infusions:
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Octreotide - 50 mcg/hour
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-11-9**] 08:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 35.2
C (95.4
   HR: 48 (46 - 61) bpm
   BP: 90/49(64) {84/44(59) - 114/56(78)} mmHg
   RR: 13 (13 - 26) insp/min
   SpO2: 96%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 63 Inch
             Total In:
                                                                  4,135 mL
                                                                  1,036 mL
   PO:
             TF:
             158 mL
   IVF:
                                                                  1,837 mL
                                                                    817 mL
   Blood products:
                                                                  2,093 mL
   Total out:
                                                                  4,382 mL
                                                                  1,513 mL
   Urine:
                                                                     66 mL
                                                                     12 mL
   NG:
   Stool:
   Drains:
                                                                  4,000 mL
                                                                    400 mL
   Balance:
                                                                   -247 mL
                                                                   -477 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 96%
   ABG: 7.33/22/98.[**Numeric Identifier 176**]/12/-10
   PaO2 / FiO2: 280
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   102 K/uL
   9.6 g/dL
   94 mg/dL
   2.6 mg/dL
   12 mEq/L
   5.0 mEq/L
   92 mg/dL
   103 mEq/L
   136 mEq/L
   27.2 %
   9.8 K/uL
        [image002.jpg]
                            [**2126-11-7**]  12:09 PM
                            [**2126-11-7**]  09:25 PM
                            [**2126-11-8**]  05:51 AM
                            [**2126-11-8**]  11:53 AM
                            [**2126-11-8**]  04:38 PM
                            [**2126-11-8**]  06:31 PM
                            [**2126-11-8**]  08:05 PM
                            [**2126-11-8**]  10:58 PM
                            [**2126-11-8**]  11:10 PM
                            [**2126-11-9**]  02:18 AM
   WBC
   10.5
   9.1
   8.4
   9.8
   Hct
   25.3
   25.2
   26.9
   20.9
   25.9
   27.5
   27.6
   27.2
   Plt
   107
   97
   84
   92
   102
   Cr
   1.2
   2.7
   2.0
   1.8
   1.8
   2.6
   TCO2
   13
   Glucose
   66
   68
   62
   71
   82
   94
   Other labs: PT / PTT / INR:29.9/54.2/3.0, ALT / AST:63/134, Alk Phos /
   T Bili:64/47.7, Fibrinogen:108 mg/dL, Lactic Acid:3.0 mmol/L, LDH:286
   IU/L, Ca++:9.8 mg/dL, Mg++:3.3 mg/dL, PO4:5.7 mg/dL
   Microbiology: [**11-7**] Urine culture: enterococcus
   [**11-2**] Urine culture: [**First Name5 (NamePattern1) 1354**] [**Last Name (NamePattern1) **]
   Assessment and Plan
 HYPOTHERMIA
 IMPAIRED SKIN INTEGRITY
 COAGULOPATHY
 HEPATORENAL SYNDROME
 EPISTAXIS (NOSEBLEED)
   58 year old woman with prolonged hospital course after initial
   admission for lower GI bleeding in the setting of elevated INR and
   decompensated liver failure from cryptogenic / idiopathic cirrhosis now
   transferred back to the MICU for epistaxis.
   # ARF:  patient with Cr bump to 2.7 overnight.  Bladder pressure done
   and showed pressure of 40.  Paracentesis was done and 4L of ascitic
   fluid taken out.  Bladder pressure 10 s/p para.  Per renal, urine
   sediment consistent with ATN, likely not HRS.
   -- f/u renal consult
   -- cont midodrine 7.5mg TID
   -- cont Octreotide 100mcg TID
   -- plan for HD today
   # Hypotension:  patient hypotensive s/p para overnight, likely [**1-28**]
   fluid shifts.  Responded well to PRBC
   -- cont to monitor, check HCT [**Hospital1 7**]
   # Hypothermia:  Patient hypothermic over the past few days.  Started on
   Empiric Vanco/Cefepmine on [**11-6**].  Flagyl started on [**10-25**].  Micafungin
   started on [**11-6**] for +yeast in urine.  Cell count on paracentesis
   negative for SBP.  Otherwise, no source of infection has been
   identified.
   -- cont abx for now until cultures are finalized
   -- consult ID for assistance with antibiotics
   -- f/u blood cultures, urine cultures
   #. CIRRHOSIS / TRANSPLANT : Continued decompensation, MELD 47 yesterday
   morning.  +coagulopathy and NGT were likely cause of epistaxis
   yesterday.  Transplant surgery following and stated that surgery is on
   hold until patient stabilizes from infection.
   - F/U hepatology recs
   # Coagulopathy:  likely from known cirrhosis.  INR down to 2.9 from 7.5
   yesterday, after 6uFFP.  will give 2 more units of FFP to continue
   correction of coagulopathy given need for HD line placement.  will also
   order ddavp for treatment of uremic platelets, as well as 1u of
   platelets.
   -- 2u FFP
   -- ddAVP 40mcg x 1
   -- 1u platelets
   # Epistaxis:  ENT consulted and found +excoriation in bilateral nares,
   likely [**1-28**] NGT and doboff.  Surgicell placed, bleeding currently
   stopped so no need for nasal packing at this time.
   - f/u ENT recs
   - afrin if continues to bleed
   - HCT stable will check [**Hospital1 7**]
   - transfuse if HCT < 21
   #. GI BLEEDING: Secondary to portal hypertension and rectal varices. No
   active bleeding at this time, no futher intervention anticipated
   - Hct Q12H for now
   #. VAGINAL BLEEDING: Had vaginal bleeding in ICU a few weeks ago,
   evaluated by [**Last Name (LF) 3180**], [**First Name3 (LF) **] f/u with primary team. Patient noted to have
   small amount of vaginal bleeding overnight.
   #. ENCEPHALOPATHY: Lactulose, rifaximin, titrate to 3 bowel movements
   per day.
   FEN: NPO for now, replete lytes, Nutrition consult for TF recs
   PPX:
   -DVT ppx with pneumoboots given active bleeding
   -Bowel regimen with lactulose
   -PPI
   ACCESS: PICC
   CODE STATUS: Full Code
   EMERGENCY CONTACT: [**Name (NI) 215**] (Daughter) [**Telephone/Fax (1) **] / cell [**Telephone/Fax (1) 1278**]
   DISPOSITION: ICU
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2126-11-9**] 12:15 AM 20 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2126-11-7**] 12:52 PM
   Dialysis Catheter - [**2126-11-8**] 01:28 PM
   Arterial Line - [**2126-11-8**] 08:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2126-11-10 06:20:00 Physician Resident Progress Note
Chief Complaint: Epistaxis, End stage liver disease
   24 Hour Events:
   Dobhoff got clogged -removed
   Surgery did not feel comfortable placing NG or OG in her
   IR will do it on Monday therefore no tubefeeds or po meds currently
   Spoke with family, reversed code status to DNR/DNI
   HCT stable
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Fluconazole - [**2126-11-8**] 12:00 PM
   Cefipime - [**2126-11-9**] 05:36 PM
   Vancomycin - [**2126-11-9**] 06:21 PM
   Micafungin - [**2126-11-9**] 08:00 PM
   Metronidazole - [**2126-11-10**] 12:03 AM
   Infusions:
   Octreotide - 50 mcg/hour
   Pantoprazole (Protonix) - 8 mg/hour
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   KCl (CRRT) - 2 mEq./hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-11-10**] 06:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.2
C (98.9
   HR: 54 (48 - 62) bpm
   BP: 102/48(64) {90/45(61) - 111/59(78)} mmHg
   RR: 10 (9 - 17) insp/min
   SpO2: 96%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 107.1 kg (admission): 98.4 kg
   Height: 63 Inch
    Bladder pressure: 10 (10 - 10) mmHg
   Total In:
                                                                  2,817 mL
                                                                    822 mL
   PO:
   TF:
                                                                    196 mL
   IVF:
                                                                  2,471 mL
                                                                    822 mL
   Blood products:
   Total out:
                                                                  3,999 mL
                                                                  1,270 mL
   Urine:
                                                                     17 mL
   NG:
   Stool:
   Drains:
                                                                    820 mL
                                                                    300 mL
   Balance:
                                                                 -1,182 mL
                                                                   -446 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 96%
   ABG: 7.47/26/113/19/-2
   PaO2 / FiO2: 323
   Physical Examination
   Gen: Somnolent, diffusely anasarcic
   Lungs: CTAB on anterior exam
   CV: RRR. No murmurs
   Abdomen: Soft, distended. + fluid wave. No rebound or guarding
   Extremities: WWP. 3+ pitting edema
   Neuro: Patient follows commands this morning. Opens eyes, blinks on
   command. Denies pain. .
   Labs / Radiology
   80 K/uL
   9.6 g/dL
   73 mg/dL
   1.0 mg/dL
   19 mEq/L
   4.3 mEq/L
   48 mg/dL
   103 mEq/L
   137 mEq/L
   26.7 %
   10.4 K/uL
        [image002.jpg]
                            [**2126-11-9**]  02:18 AM
                            [**2126-11-9**]  07:34 AM
                            [**2126-11-9**]  07:35 AM
                            [**2126-11-9**]  08:38 AM
                            [**2126-11-9**]  01:42 PM
                            [**2126-11-9**]  01:43 PM
                            [**2126-11-9**]  02:14 PM
                            [**2126-11-9**]  08:21 PM
                            [**2126-11-10**]  02:15 AM
                            [**2126-11-10**]  02:21 AM
   WBC
   9.8
   10.4
   Hct
   27.2
   26.9
   27.8
   26.8
   26.7
   Plt
   102
   80
   Cr
   2.6
   1.5
   1.0
   1.0
   TCO2
   14
   15
   19
   Glucose
   94
   127
   106
   102
   73
   Other labs: PT / PTT / INR:39.4/64.1/4.1, ALT / AST:64/148, Alk Phos /
   T Bili:71/47.8, Fibrinogen:108 mg/dL, Lactic Acid:2.4 mmol/L, LDH:295
   IU/L, Ca++:9.6 mg/dL, Mg++:2.8 mg/dL, PO4:3.4 mg/dL
   Microbiology: [**11-9**] C diff negative
   [**11-8**] Blood culture pending
   **[**11-7**] Urine culture -VRE. Sensitive to linezolid.
   Assessment and Plan
 HYPOTHERMIA
 IMPAIRED SKIN INTEGRITY
 COAGULOPATHY
 HEPATORENAL SYNDROME
 EPISTAXIS (NOSEBLEED)
   58 year old woman with prolonged hospital course after initial
   admission for lower GI bleeding in the setting of elevated INR and
   decompensated liver failure from cryptogenic / idiopathic cirrhosis now
   transferred back to the MICU for epistaxis.
   # UTI: [**11-7**] Urine culture growing VRE, sensitive to linezolid.
   Currently on Vanc (day 1 = [**11-6**]), Cefepime (day 1 = [**11-6**]), Flagyl
   (day 1 = [**10-25**]), Micafungin (day 1 = [**11-6**]).
   -change foley
   -start linezolid
   -discontinue vancomycin
   -continue cefepime, flagyl, micafungin
   # ARF:  patient with Cr 1.0. Bladder pressure 20 this morning.  Per
   renal, urine sediment consistent with ATN, likely not HRS.
   -- currently getting CVVH this morning
keeping her net even
   -- f/u renal consult
   -- cont midodrine 7.5mg TID
on hold given no NG tube currently
   -- cont Octreotide 100mcg TID
   # Hypotension, bradycardia:  patient hypotensive and newly bradycardic
   with HR 45-60. Likely secondary to ESLD and sepsis. Will monitor MAPs.
   Start levophed if MAP<60.
   # Hypothermia: resolving.  Patient hypothermic over the past few days,
   currently 98.9.  Started on Empiric Vanco/Cefepmine on [**11-6**].  Flagyl
   started on [**10-25**].  Micafungin started on [**11-6**] for +yeast in urine.
   Cell count on paracentesis negative for SBP.  Otherwise, no source of
   infection has been identified. VRE from urine. D/c vanc [**11-10**], start
   linezolid.
   -- cont abx for now until cultures are finalized
   -- f/u ID recs
   -- f/u blood cultures, urine cultures
   -- f/u PM lactate
   #. CIRRHOSIS / TRANSPLANT : Continued decompensation.  +coagulopathy
   and NGT were likely cause of epistaxis.  Transplant surgery following
   and stated that surgery is on hold until patient stabilizes from
   infection.
   - F/U hepatology recs
   # Coagulopathy:  likely from known cirrhosis.  INR 4.1. No more FFP
   unless patient starts to bleed or needs procedure
   -- f/u q8h HCT
   -- active T&S
   # Epistaxis:  ENT consulted and found +excoriation in bilateral nares,
   likely [**1-28**] NGT and doboff.  Surgicell placed, bleeding currently
   stopped so no need for nasal packing at this time.
   - f/u ENT recs
   - afrin if continues to bleed
   - HCT stable will check q6h
   - transfuse if HCT < 25
   #. GI BLEEDING: Secondary to portal hypertension and rectal varices.
   Had moderate sized rectal clot [**11-8**].
   - Hct Q8H for now
   #. VAGINAL BLEEDING: Had vaginal bleeding in ICU a few weeks ago,
   evaluated by [**Last Name (LF) 3180**], [**First Name3 (LF) **] f/u with primary team.
   #. ENCEPHALOPATHY: Lactulose, rifaximin (on hold given no NG tube),
   titrate to 3 bowel movements per day.
   FEN: NPO for now, replete lytes, Tube feeds
currently clogged. Will
   have to replace under fluoro. No TFs today. No po meds today.
   PPX:
   -DVT ppx with pneumoboots given active bleeding
   -Bowel regimen with lactulose
   -PPI
   ACCESS: PICC
   CODE STATUS: DNR/DNI
confirmed with HCP on [**11-9**]
   EMERGENCY CONTACT: [**Name (NI) 215**] (Daughter) [**Telephone/Fax (1) **] / cell [**Telephone/Fax (1) 1278**]
   DISPOSITION: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2126-11-7**] 12:52 PM
   Dialysis Catheter - [**2126-11-8**] 01:28 PM
   Arterial Line - [**2126-11-8**] 08:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2126-11-10 08:13:00 Physician Attending Progress Note
Chief Complaint: Liver failure
   I saw and examined the patient, and was physically present with Dr.
   [**Last Name (STitle) 11532**] for the key portions of the services provided. I agree with the
   housestaff note above, including the assessment and plan. I would
   emphasize and add the following points:
   24 Hour Events:
   - Dobhoff clogged, removed, discussed with surgery, given altered MS
   will discuss with radiology for replacement [**11-11**]
   - Changed to DNR/DNI after discussion with family - proxy, transplant
   surgery.  Emotional discussion.  One family member angry at staff  re:
   decision, security now outside room.
   - Off CVVH briefly yesterday due to need to replace cartridge
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2126-11-9**] 05:36 PM
   Vancomycin - [**2126-11-9**] 06:21 PM -> Linezolid [**11-10**]
   Micafungin - [**2126-11-9**] 08:00 PM
   Metronidazole - [**2126-11-10**] 07:45 AM
   Infusions:
   Pantoprazole (Protonix) - 8 mg/hour
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   KCl (CRRT) - 2 mEq./hour
   Octreotide - 50 mcg/hour
   Other ICU medications:
   Other medications:
   Vitamin K (held), Rifaximin (held), MVI (held), Midodrine (held),
   Nystatin, Lactulose PR
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-11-10**] 08:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.3
C (97.4
   HR: 55 (48 - 62) bpm
   BP: 103/47(61) {80/39(51) - 109/53(66)} mmHg
   RR: 12 (9 - 17) insp/min
   SpO2: 97%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 105.4 kg (admission): 98.4 kg
   Height: 63 Inch
   Bladder pressure: 25 (25 - 25) mmHg
   Total In:
                                                                  2,817 mL
                                                                  1,081 mL
   PO:
   TF:
                                                                    196 mL
   IVF:
                                                                  2,471 mL
                                                                  1,081 mL
   Blood products:
   Total out:
                                                                  3,999 mL
                                                                  1,350 mL
   Urine:
                                                                     17 mL
                                                                      5 mL
   NG:
   Stool:
   Drains:
                                                                    820 mL
                                                                    375 mL
   Balance:
                                                                 -1,182 mL
                                                                   -269 mL
   Respiratory support
   O2 Delivery Device: Face tent 35%
   SpO2: 97%
   ABG: 7.47/26/113/19/-2
   PaO2 / FiO2: 323
   Physical Examination
   General Appearance: Anasarcic
   Eyes / Conjunctiva: PERRL, icteric sclera
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Bronchial:
   )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, Positive
   fluid wave
   Skin:  Warm, Jaundice
   Neurologic: Responds to: Tactile stimuli, Movement: Spontaneous
   Labs / Radiology
   9.6 g/dL
   80 K/uL
   73 mg/dL
   1.0 mg/dL
   19 mEq/L
   4.3 mEq/L
   48 mg/dL
   103 mEq/L
   137 mEq/L
   26.7 %
   10.4 K/uL
        [image002.jpg]
                            [**2126-11-9**]  02:18 AM
                            [**2126-11-9**]  07:34 AM
                            [**2126-11-9**]  07:35 AM
                            [**2126-11-9**]  08:38 AM
                            [**2126-11-9**]  01:42 PM
                            [**2126-11-9**]  01:43 PM
                            [**2126-11-9**]  02:14 PM
                            [**2126-11-9**]  08:21 PM
                            [**2126-11-10**]  02:15 AM
                            [**2126-11-10**]  02:21 AM
   WBC
   9.8
   10.4
   Hct
   27.2
   26.9
   27.8
   26.8
   26.7
   Plt
   102
   80
   Cr
   2.6
   1.5
   1.0
   1.0
   TCO2
   14
   15
   19
   Glucose
   94
   127
   106
   102
   73
   Other labs: PT / PTT / INR:39.4/64.1/4.1, ALT / AST:64/148, Alk Phos /
   T Bili:71/47.8, Fibrinogen:108 mg/dL, Lactic Acid:2.4 mmol/L, LDH:295
   IU/L, Ca++:9.6 mg/dL, Mg++:2.8 mg/dL, PO4:3.4 mg/dL
   C diff negative
   Urine Cx [**11-7**]
 VRE+
   Assessment and Plan
   58 year old woman with prolonged hospital course after initial
   admission requiring ICU stay and intubation for lower GI bleeding and
   vaginal bleeding in the setting of elevated INR and decompensated liver
   failure from cryptogenic / idiopathic cirrhosis now transferred back to
   the MICU for epistaxis and oliguria/hypotension.
   Unclear if source of decompensation is infection vs other, but now off
   transplant list and DNR/DNI.
   #Bradycardia: Over the last 24hrs now stable in the mid-50s
   # ARF:  Patient with Cr bump and oliguric for the past 3 days,
   concerning for HRS, but urine sediment more consistent with ATN.  Acute
   worsening overnight in the setting of elevated bladder
   pressure/compartment syndrome, which resolved with paracentesis, but no
   improvement in renal failure.  Now acidotic and hyperkalemic.
   - On CVVH, try to run negative if hemodynamically tolerated
   - On octreotide, unable to give midodrine secondary to no Dobhoff
   - Daily bladder pressures
   # Hypotension: Likely multifactorial, but main components include fluid
   shifts and epistaxis.  In the setting of hypothermia, significant
   concern for underlying sepsis, perhaps fungemia.  Stool occult
   positive.
   -- Goal MAPs > 55
   - Continue PRBC and albumin as needed for volume resucictation
   - Continue micafungin - Day 5.  Send glucan/galactomannan. F/U Fungal
   isolators.
   - Continue IV cefepime since - Day 5.  Flagyl - Day 15
   - Start IV linezolid given VRE in urine (had been on Vanc)
   - F/U all cultures
   -- Appreciate ID input
   -- Has A line ([**11-8**]), q6h lactates
   # Cirrhosis: Decompensed ESLD, MELD 47 on [**11-7**].
   - F/U hepatology recs
   - Not currently listed, but surgery will continue to follow
   # Coagulopathy: Likely from known cirrhosis.
   - q8h Hcts and coags, goal >25
   - FFP, ddAVP, PRBC as needed for bleeding or procedures
   # Epistaxis:  ENT consulted and found escoriation in bilateral nares,
   likely [**1-28**] NGT and doboff in setting of coagulopathy. Now stable.
   - Appreciate ENT recs
   - Afrin if continues to bleed
   # GI Bleed: Secondary to portal hypertension and rectal varices. No
   active bleeding at this time, although stool occult positive.   Hct
   stable over the last 36hrs
   - Hct Q8H for now
   - on octreotide
   - Will need Dobhoff replaced by radiology secondary to altered MS, will
   need FFP prior
   # Vaginal bleed: Had vaginal bleeding in ICU a few weeks ago, evaluated
   by OBGYN thought to have benign endometrial disease, will f/u with
   primary team.  No issues currently.
   # Encephalopathy: Continue lactulose and rifaximin. HD today.  Mental
   status appears improved with lactulose and CVVH.
   ICU Care
   Nutrition: NPO, awaiting new Dobhoff
   Glycemic Control:
   Lines:
   PICC Line - [**2126-11-7**] 12:52 PM
   Dialysis Catheter - [**2126-11-8**] 01:28 PM
   Arterial Line - [**2126-11-8**] 08:00 PM
   Prophylaxis:
   DVT: P-boots
   Stress ulcer: PPI
   VAP: Hob elevated
   Comments:
   Communication:  Comments:
   Code status: DNR/DNI as noted above.
   Disposition : ICU
   Total time spent:  35min

2126-11-11 07:59:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -improvement in bradycardia/ hypotension
   -pt made DNR/DNI over weekend
   -VRE in urine, started on linezolid
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Fluconazole - [**2126-11-8**] 12:00 PM
   Vancomycin - [**2126-11-9**] 06:21 PM
   Cefipime - [**2126-11-10**] 06:15 PM
   Linezolid - [**2126-11-10**] 08:00 PM
   Micafungin - [**2126-11-10**] 08:02 PM
   Metronidazole - [**2126-11-11**] 07:45 AM
   Infusions:
   Pantoprazole (Protonix) - 8 mg/hour
   Octreotide - 50 mcg/hour
   Other ICU medications:
   Dextrose 50% - [**2126-11-11**] 03:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-11-11**] 07:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.4
C (97.5
   HR: 57 (50 - 60) bpm
   BP: 110/53(71) {88/42(55) - 117/60(79)} mmHg
   RR: 11 (8 - 21) insp/min
   SpO2: 96%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 105.4 kg (admission): 98.4 kg
   Height: 63 Inch
    Bladder pressure: 25 (25 - 25) mmHg
   Total In:
                                                                  3,271 mL
                                                                  1,090 mL
   PO:
   TF:
   IVF:
                                                                  3,271 mL
                                                                  1,065 mL
   Blood products:
   Total out:
                                                                  4,617 mL
                                                                  1,042 mL
   Urine:
                                                                      5 mL
                                                                     13 mL
   NG:
   Stool:
   Drains:
                                                                    875 mL
                                                                    300 mL
   Balance:
                                                                 -1,346 mL
                                                                     49 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: 7.41/36/86.[**Numeric Identifier 143**]/22/0
   PaO2 / FiO2: 249
   Physical Examination
   General Appearance: Anxious
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   67 K/uL
   9.3 g/dL
   66 mg/dL
   1.0 mg/dL
   22 mEq/L
   3.8 mEq/L
   24 mg/dL
   100 mEq/L
   135 mEq/L
   26.4 %
   8.8 K/uL
        [image002.jpg]
                            [**2126-11-10**]  02:21 AM
                            [**2126-11-10**]  07:55 AM
                            [**2126-11-10**]  07:57 AM
                            [**2126-11-10**]  08:12 AM
                            [**2126-11-10**]  02:45 PM
                            [**2126-11-10**]  03:13 PM
                            [**2126-11-10**]  08:31 PM
                            [**2126-11-10**]  08:39 PM
                            [**2126-11-11**]  02:34 AM
                            [**2126-11-11**]  02:41 AM
   WBC
   8.8
   Hct
   26.7
   26.3
   27.7
   26.4
   Plt
   67
   Cr
   1.3
   1.2
   1.0
   TCO2
   19
   20
   22
   23
   24
   Glucose
   64
   70
   59
   66
   Other labs: PT / PTT / INR:57.9/88.8/6.5, ALT / AST:64/147, Alk Phos /
   T Bili:68/43.7, Fibrinogen:108 mg/dL, Lactic Acid:2.3 mmol/L, LDH:295
   IU/L, Ca++:9.3 mg/dL, Mg++:2.4 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
 HYPOTHERMIA
 IMPAIRED SKIN INTEGRITY
 COAGULOPATHY
 HEPATORENAL SYNDROME
 EPISTAXIS (NOSEBLEED)
   58 year old woman with prolonged hospital course after initial
   admission for lower GI bleeding in the setting of elevated INR and
   decompensated liver failure from cryptogenic / idiopathic cirrhosis now
   transferred back to the MICU for epistaxis.
   # Hypotension, bradycardia:  IMPROVING. Patient hypotensive & newly
   bradycardic with HR 45-60 over the weekend, now improving. Likely
   secondary to ESLD and sepsis. No organism has been identified to date.
   . Currently on Vanc (day 1 = [**11-6**]), Cefepime (day 1 = [**11-6**]), Flagyl
   (day 1 = [**10-25**]), Micafungin (day 1 = [**11-6**]).  Fungal Markers and fungal
   cultures are both pending.
   - Will monitor MAPs. Start levophed if MAP<60.
   - Continue braod Abx covg as above
   - daily to [**Hospital1 7**] lactate
   # UTI: [**11-7**] Urine culture growing VRE, sensitive to linezolid.
   Currently on Vanc (day 1 = [**11-6**]), Cefepime (day 1 = [**11-6**]), Flagyl
   (day 1 = [**10-25**]), Micafungin (day 1 = [**11-6**]).
   -d/c foley; will need to replace in AM to assess bladder pressures, but
   given UOP of 20cc/day, no need for foley overnight
   -started linezolid
   -discontinued vancomycin
   -continue cefepime, flagyl, micafungin
   # ARF:  patient with Cr 1.0. Bladder pressure 12 this morning.  Per
   renal, urine sediment consistent with ATN, likely not HRS.
   -- restart CVVH: goal negative 50cc/hr for goal of 1L per day, will
   tolerate levophed if necessary to diurese
   -- f/u renal consult
   -- cont midodrine 7.5mg TID
   -- cont Octreotide 100mcg TID
   #. CIRRHOSIS / TRANSPLANT : Continued decompensation.  +coagulopathy
   and NGT were likely cause of epistaxis.  Transplant surgery following
   and stated that surgery is on hold until patient stabilizes from
   infection
pt is still on list, but de-activated.
   - F/U hepatology recs
   - Family mtg today to address code status in relation to transplant
   list
   # Coagulopathy:  likely from known cirrhosis.  INR 4.1. No more FFP
   unless patient starts to bleed or needs procedure
   -- f/u q4-8h HCT
   -- active T&S
   # Epistaxis:  ENT consulted and found +excoriation in bilateral nares,
   likely [**1-28**] NGT and doboff.  Surgicell placed, bleeding currently
   stopped so no need for nasal packing at this time.
   - f/u ENT recs
   - afrin if continues to bleed
   - transfuse if HCT < 25
   #. GI BLEEDING: Secondary to portal hypertension and rectal varices.
   Had moderate sized rectal clot [**11-8**].
   - Hct Q4-8H as above depending on blood loss
   #. VAGINAL BLEEDING: Had vaginal bleeding in ICU a few weeks ago,
   evaluated by [**Last Name (LF) 3180**], [**First Name3 (LF) **] f/u with primary team.
   #. ENCEPHALOPATHY: Lactulose, rifaximin (on hold given no NG tube),
   titrate to 3 bowel movements per day.
   FEN: NPO for now, replete lytes, Tube feeds
currently clogged--will
   have to replace under fluoro today.
   PPX:
   -DVT ppx with pneumoboots given active bleeding
   -Bowel regimen with lactulose
   -PPI
   ACCESS: PICC
   CODE STATUS: DNR/DNI
confirmed with HCP on [**11-9**]
   EMERGENCY CONTACT: [**Name (NI) 215**] (Daughter) [**Telephone/Fax (1) **] / cell [**Telephone/Fax (1) 1278**]
   DISPOSITION: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2126-11-7**] 12:52 PM
   Dialysis Catheter - [**2126-11-8**] 01:28 PM
   Arterial Line - [**2126-11-8**] 08:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2126-11-11 09:17:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: Cryptogenic Cirrhosis, Acute renal failure
   24 Hour Events:
   - VRE in urine - foley changed and started on linezolid
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Fluconazole - [**2126-11-8**] 12:00 PM
   Vancomycin - [**2126-11-9**] 06:21 PM
   Cefipime - [**2126-11-10**] 06:15 PM
   Linezolid - [**2126-11-10**] 08:00 PM
   Micafungin - [**2126-11-10**] 08:02 PM
   Metronidazole - [**2126-11-11**] 07:45 AM
   Infusions:
   Octreotide - 50 mcg/hour
   Other ICU medications:
   Dextrose 50% - [**2126-11-11**] 03:30 AM
   Other medications:
   Cefepime, Flagyl, Micafungin, Linezolid, Octreotide, Protonix,
   Rifaximin, Vit K, Ursodiol, Vit K, MV, Midodrine
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-11-11**] 09:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.3
C (97.3
   HR: 59 (50 - 60) bpm
   BP: 87/43(58) {87/42(55) - 117/59(79)} mmHg
   RR: 11 (8 - 21) insp/min
   SpO2: 98%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 105.4 kg (admission): 98.4 kg
   Height: 63 Inch
   Bladder pressure: 12 (12 - 12) mmHg
   Total In:
                                                                  3,271 mL
                                                                  1,118 mL
   PO:
   TF:
   IVF:
                                                                  3,271 mL
                                                                  1,093 mL
   Blood products:
   Total out:
                                                                  4,617 mL
                                                                  1,042 mL
   Urine:
                                                                      5 mL
                                                                     13 mL
   NG:
   Stool:
   Drains:
                                                                    875 mL
                                                                    300 mL
   Balance:
                                                                 -1,346 mL
                                                                     76 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   FiO2: 2 L NC
   SpO2: 98%
   ABG: 7.41/36/86.[**Numeric Identifier 143**]/22/0
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : , Diminished: Bases)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, Bladder
   pressure 12
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   9.3 g/dL
   67 K/uL
   66 mg/dL
   1.0 mg/dL
   22 mEq/L
   3.8 mEq/L
   24 mg/dL
   100 mEq/L
   135 mEq/L
   26.4 %
   8.8 K/uL
        [image002.jpg]
                            [**2126-11-10**]  02:21 AM
                            [**2126-11-10**]  07:55 AM
                            [**2126-11-10**]  07:57 AM
                            [**2126-11-10**]  08:12 AM
                            [**2126-11-10**]  02:45 PM
                            [**2126-11-10**]  03:13 PM
                            [**2126-11-10**]  08:31 PM
                            [**2126-11-10**]  08:39 PM
                            [**2126-11-11**]  02:34 AM
                            [**2126-11-11**]  02:41 AM
   WBC
   8.8
   Hct
   26.7
   26.3
   27.7
   26.4
   Plt
   67
   Cr
   1.3
   1.2
   1.0
   TCO2
   19
   20
   22
   23
   24
   Glucose
   64
   70
   59
   66
   Other labs: PT / PTT / INR:57.9/88.8/6.5, ALT / AST:64/147, Alk Phos /
   T Bili:68/43.7, Fibrinogen:108 mg/dL, Lactic Acid:2.3 mmol/L, LDH:295
   IU/L, Ca++:9.3 mg/dL, Mg++:2.4 mg/dL, PO4:2.2 mg/dL
   Imaging: No new imaging.
   Microbiology: Urine culture with VRE.
   Assessment and Plan
   58 year old woman with prolonged hospital course after initial
   admission requiring ICU stay and intubation for lower GI bleeding and
   vaginal bleeding in the setting of elevated INR and decompensated liver
   failure from cryptogenic / idiopathic cirrhosis now transferred back to
   the MICU for epistaxis and oliguria/hypotension/hypothermia.  Unclear
   if source of decompensation is infection vs other, but now deactivated
   on transplant list and DNR/DNI.
   #Bradycardia/Hypothermia/Hypotension: Probably due to infectious
   process as yet not identified as decline started before UTI.
   Significant concern for underlying sepsis, perhaps fungemia.
   - Goal MAPs > 55
   - Continue cefepime, flagyl, micafungin, linezolid
   - F/U glucan/galactomannan. F/U Fungal isolators.
   - F/U all cultures
   - Trend lactates
   - Appreciate ID input
   # ARF:  Concerning for HRS, but urine sediment more consistent with
   ATN.  On CVVHD.
   - On CVVH, try to run negative if hemodynamically tolerated
 may need
   low dose pressors.
   - On octreotide, unable to give midodrine secondary to no Dobhoff
   - Daily bladder pressures
   # UTI: VRE
 started linezolid
   - ID following
   # Cirrhosis: Decompensed ESLD, MELD 42.  Now DNR/DNI
 apparently on
   transplant list, but not activated.
   - F/U transplant surgery recs
   - Plan for family meeting with hepatology and transplant surgery
   # Coagulopathy: Likely from known cirrhosis and hypothermia.
   - Q6h Hcts and coags, goal >25
   - FFP, ddAVP, PRBC as needed for bleeding or procedures
   # GI Bleed: Secondary to portal hypertension and rectal varices. No
   active bleeding at this time, although stool occult positive.   Hct
   stable over the last couple days
   - Hct Q6H for now
   - On octreotide and PPI IV
   - Will need Dobhoff replaced by radiology secondary to altered MS
   # Vaginal bleed: Had vaginal bleeding in ICU a few weeks ago, evaluated
   by OBGYN thought to have benign endometrial disease, will f/u with
   primary team.  No issues currently.
   # Encephalopathy: Continue lactulose and rifaximin.  Mental status
   appears improved with lactulose and CVVH.
   ICU Care
   Nutrition: Restart TF once Dobhoff placed
   Glycemic Control:
   Lines:
   PICC Line - [**2126-11-7**] 12:52 PM
   Dialysis Catheter - [**2126-11-8**] 01:28 PM
   Arterial Line - [**2126-11-8**] 08:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2126-11-12 07:34:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 FLUOROSCOPY - At [**2126-11-11**] 10:25 AM
   dobhoff placement
some minor epistaxis that self-resolved
   - Family mtg held to address code status given difficult issues over
   the weekend; pt could not stay on the tx list (even as deactivated)
   while DNR/DNI). HCPs were unaware of this.
   - Hepatology, MICU, and SW present: fianl decision was for pt to be
   full code in order to be able to stay on the list (as deactivated for
   now) with the understanding that any code would be limited to one round
   of shocks, compressions.
   - Kept CVVH NEGATIVE 50CC/HR
started at 7pm
   - Passed marroon stool with no hct drop or hemodynamic change
   - Bladder pressure yesterday am was 12, foley removed given borderline
   anuria and possible UTI, may need to be replaced to obtain future
   bladder pressures.
   -CMV VL returned borderline positive
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2126-11-9**] 06:21 PM
   Linezolid - [**2126-11-11**] 08:00 PM
   Micafungin - [**2126-11-11**] 08:00 PM
   Cefipime - [**2126-11-12**] 06:00 AM
   Metronidazole - [**2126-11-12**] 07:30 AM
   Infusions:
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   Pantoprazole (Protonix) - 8 mg/hour
   Octreotide - 50 mcg/hour
   KCl (CRRT) - 2 mEq./hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-11-12**] 07:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36
C (96.8
   HR: 67 (56 - 70) bpm
   BP: 107/49(67) {87/42(58) - 123/61(83)} mmHg
   RR: 15 (10 - 19) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 105.4 kg (admission): 98.4 kg
   Height: 63 Inch
    Bladder pressure: 12 (12 - 12) mmHg
   Total In:
                                                                  4,012 mL
                                                                  1,393 mL
   PO:
   TF:
                                                                    135 mL
                                                                    176 mL
   IVF:
                                                                  2,605 mL
                                                                  1,077 mL
   Blood products:
                                                                  1,127 mL
   Total out:
                                                                  2,424 mL
                                                                  1,385 mL
   Urine:
                                                                     18 mL
   NG:
   Stool:
   Drains:
                                                                    300 mL
   Balance:
                                                                  1,588 mL
                                                                      8 mL
   Respiratory support
   O2 Delivery Device: Face tent  10L, FiO2 of 35%
   SpO2: 95%
   ABG: 7.40/32/92.[**Numeric Identifier 132**]/19/-3
   PaO2 / FiO2: 266
   Physical Examination
   General Appearance: Sleeping, NAD
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   64 K/uL
   9.1 g/dL
   131 mg/dL
   0.4 mg/dL
   19 mEq/L
   4.0 mEq/L
   21 mg/dL
   103 mEq/L
   136 mEq/L
   26.1 %
   9.1 K/uL
        [image002.jpg] CMV VL 869
                            [**2126-11-11**]  02:34 AM
                            [**2126-11-11**]  02:41 AM
                            [**2126-11-11**]  08:49 AM
                            [**2126-11-11**]  02:51 PM
                            [**2126-11-11**]  03:03 PM
                            [**2126-11-11**]  05:22 PM
                            [**2126-11-11**]  05:27 PM
                            [**2126-11-11**]  09:31 PM
                            [**2126-11-12**]  04:35 AM
                            [**2126-11-12**]  04:39 AM
   WBC
   8.8
   9.1
   Hct
   26.4
   26.5
   26.6
   26.1
   Plt
   67
   64
   Cr
   1.0
   0.4
   0.5
   0.5
   0.4
   TCO2
   24
   23
   23
   21
   Glucose
   66
   87
   73
   119
   131
   Other labs: PT / PTT / INR:29.0/59.2/2.9, ALT / AST:66/148, Alk Phos /
   T Bili:78/44.4, Fibrinogen:108 mg/dL, Lactic Acid:2.0 mmol/L, LDH:295
   IU/L, Ca++:9.3 mg/dL, Mg++:2.6 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
 HYPOTHERMIA
 IMPAIRED SKIN INTEGRITY
    COAGULOPATHY
 HEPATORENAL SYNDROME
 EPISTAXIS (NOSEBLEED)
   58 year old woman with prolonged hospital course after initial
   admission for lower GI bleeding in the setting of elevated INR and
   decompensated liver failure from cryptogenic / idiopathic cirrhosis now
   transferred back to the MICU for epistaxis.
   # Hypotension, bradycardia:  IMPROVING. Patient hypotensive & newly
   bradycardic with HR 45-60 over the weekend, now improving. Likely
   secondary to ESLD and sepsis. No organism has been identified to date.
   . Currently on Linezolid (day 1 = [**11-10**]), Cefepime (day 1 = [**11-6**]),
   Flagyl (day 1 = [**10-25**]), Micafungin (day 1 = [**11-6**]).  Fungal Markers and
   fungal cultures are both pending.  CMV VL borderline positive.
   - repeat CMV VL, no evidence of end organ damage
   -start gancyclovir
   -f/u ID recs
   - Will monitor MAPs. Start levophed if MAP<60.
   - Continue braod Abx covg as above
   - daily to [**Hospital1 7**] lactate
   # UTI: [**11-7**] Urine culture growing VRE, sensitive to linezolid.
   Currently on Vanc (day 1 = [**11-6**]), Cefepime (day 1 = [**11-6**]), Flagyl
   (day 1 = [**10-25**]), Micafungin (day 1 = [**11-6**]).
   -d/c foley; will need to replace in AM to assess bladder pressures, but
   given UOP of 20cc/day, no need for foley overnight
   -started linezolid
last day [**11-14**]
   -discontinued vancomycin
   -continue cefepime, flagyl, micafungin
   -replace foley -2 units of FFP prior
   # ARF:  patient with Cr 1.0. Bladder pressure 12 this morning.  Per
   renal, urine sediment consistent with ATN, likely not HRS.
   -- restart CVVH: goal negative 50cc/hr for goal of 1L per day, will
   tolerate levophed if necessary to diurese
   -- f/u renal consult
   -- cont midodrine 7.5mg TID
   -- cont Octreotide 100mcg TID
   #. CIRRHOSIS / TRANSPLANT : Continued decompensation.  +coagulopathy
   and NGT were likely cause of epistaxis.  Transplant surgery following
   and stated that surgery is on hold until patient stabilizes from
   infection
pt is still on list, but de-activated.
   - F/U hepatology recs
   - Family mtg today to address code status in relation to transplant
   list
   # Coagulopathy:  likely from known cirrhosis.  INR 4.1. FFP prior to
   foley replacement
   -- f/u q6h HCT
   -- active T&S
   # Epistaxis:  ENT consulted and found +excoriation in bilateral nares,
   likely [**1-28**] NGT and doboff.  Surgicell placed, bleeding currently
   stopped so no need for nasal packing at this time.
   - f/u ENT recs
   - afrin if continues to bleed
   - transfuse if HCT < 25
   #. GI BLEEDING: Secondary to portal hypertension and rectal varices.
   Had moderate sized rectal clot [**11-8**].  Passed maroon stools [**11-11**].
   - Hct Q6H as above depending on blood loss
   #. VAGINAL BLEEDING: Had vaginal bleeding in ICU a few weeks ago,
   evaluated by [**Last Name (LF) 3180**], [**First Name3 (LF) **] f/u with primary team.
   #. ENCEPHALOPATHY: Lactulose, rifaximin (on hold given no NG tube),
   titrate to 3 bowel movements per day.
   FEN: NPO, replete lytes, Tube feeds.
   PPX:
   -DVT ppx with pneumoboots given active bleeding
   -Bowel regimen with lactulose
   -PPI
   ACCESS: PICC
   CODE STATUS: Full code
confirmed with HCP on [**11-11**]
   EMERGENCY CONTACT: [**Name (NI) 215**] (Daughter) [**Telephone/Fax (1) **] / cell [**Telephone/Fax (1) 1278**]
   DISPOSITION: ICU while on CVVH
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2126-11-11**] 05:15 PM 35 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2126-11-7**] 12:52 PM
   Dialysis Catheter - [**2126-11-8**] 01:28 PM
   Arterial Line - [**2126-11-8**] 08:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2126-11-12 09:24:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - Dobhoff placement under fluoro - minimal epistaxis
   - CVVHD - 50 cc neg/hr
   - Maroon stool
   - CMV viral load positive 869 copies - Transplant surgery desires
   treatment, ID not inclined to treat
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2126-11-9**] 06:21 PM
   Micafungin - [**2126-11-11**] 08:00 PM
   Cefipime - [**2126-11-12**] 06:00 AM
   Metronidazole - [**2126-11-12**] 07:30 AM
   Linezolid - [**2126-11-12**] 08:30 AM
   Infusions:
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   Pantoprazole (Protonix) - 8 mg/hour
   Octreotide - 50 mcg/hour
   KCl (CRRT) - 2 mEq./hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-11-12**] 09:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.4
C (97.5
   HR: 70 (56 - 70) bpm
   BP: 105/50(69) {95/48(64) - 123/61(83)} mmHg
   RR: 17 (10 - 19) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 105.4 kg (admission): 98.4 kg
   Height: 63 Inch
             Total In:
                                                                  4,012 mL
                                                                  1,888 mL
   PO:
             TF:
                                                                    135 mL
                                                                    236 mL
   IVF:
                                                                  2,605 mL
                                                                  1,512 mL
   Blood products:
                                                                  1,127 mL
   Total out:
                                                                  2,424 mL
                                                                  1,903 mL
   Urine:
                                                                     18 mL
   NG:
   Stool:
   Drains:
                                                                    300 mL
   Balance:
                                                                  1,588 mL
                                                                    -15 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 97%
   ABG: 7.40/32/92.[**Numeric Identifier 132**]/19/-3
   PaO2 / FiO2: 266
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.1 g/dL
   64 K/uL
   131 mg/dL
   0.4 mg/dL
   19 mEq/L
   4.0 mEq/L
   21 mg/dL
   103 mEq/L
   136 mEq/L
   26.1 %
   9.1 K/uL
        [image002.jpg]
                            [**2126-11-11**]  02:34 AM
                            [**2126-11-11**]  02:41 AM
                            [**2126-11-11**]  08:49 AM
                            [**2126-11-11**]  02:51 PM
                            [**2126-11-11**]  03:03 PM
                            [**2126-11-11**]  05:22 PM
                            [**2126-11-11**]  05:27 PM
                            [**2126-11-11**]  09:31 PM
                            [**2126-11-12**]  04:35 AM
                            [**2126-11-12**]  04:39 AM
   WBC
   8.8
   9.1
   Hct
   26.4
   26.5
   26.6
   26.1
   Plt
   67
   64
   Cr
   1.0
   0.4
   0.5
   0.5
   0.4
   TCO2
   24
   23
   23
   21
   Glucose
   66
   87
   73
   119
   131
   Other labs: PT / PTT / INR:29.0/59.2/2.9, ALT / AST:66/148, Alk Phos /
   T Bili:78/44.4, Fibrinogen:108 mg/dL, Lactic Acid:2.0 mmol/L, LDH:295
   IU/L, Ca++:9.3 mg/dL, Mg++:2.6 mg/dL, PO4:2.4 mg/dL
   Imaging: CXR - Mild pulm edema and b/l effusions.
   Microbiology: All cultures negative to date.  CMV VL 869.
   Assessment and Plan
   58 year old woman with prolonged hospital course after initial
   admission requiring ICU stay and intubation for lower GI bleeding and
   vaginal bleeding in the setting of elevated INR and decompensated liver
   failure from cryptogenic / idiopathic cirrhosis now transferred back to
   the MICU for epistaxis and oliguria/hypotension/hypothermia.  Unclear
   if source of decompensation is infection vs other, but now deactivated
   on transplant list.
   #Bradycardia/Hypothermia/Hypotension: Probably due to infectious
   process as yet not identified as decline started before UTI.
   Significant concern for underlying sepsis, perhaps fungemia.
   - Goal MAPs > 55
   - Continue cefepime, flagyl, micafungin, linezolid
   - F/U glucan/galactomannan. F/U Fungal isolators.
   - F/U all cultures
   - Trend lactates
   - Appreciate ID input
   - Start ganciclovir for CMV per transplant surgery
   - Repeat CMV VL per ID
   # ARF:  Concerning for HRS, but urine sediment more consistent with
   ATN.  On CVVHD.
   - On CVVH, try to run negative if hemodynamically tolerated
 may need
   low dose pressors.
   - On octreotide, unable to give midodrine secondary to no Dobhoff
   # UTI: VRE
 started linezolid
   - ID following
   # Cirrhosis: Decompensed ESLD, MELD 42.  Now DNR/DNI
 apparently on
   transplant list, but not activated.
   - F/U transplant surgery recs
   - On Rifaximin, Midodrine
   - Plan for family meeting with hepatology and transplant surgery
   # Coagulopathy: Likely from known cirrhosis and hypothermia.
   - Q6h Hcts and coags, goal >25
   - FFP, ddAVP, PRBC as needed for bleeding or procedures
   # GI Bleed: Secondary to portal hypertension and rectal varices. No
   active bleeding at this time, although stool occult positive.   Hct
   stable over the last couple days
   - Hct Q6H for now
   - On octreotide and PPI gtt
   - Will need Dobhoff replaced by radiology secondary to altered MS
   # Vaginal bleed: Had vaginal bleeding in ICU a few weeks ago, evaluated
   by OBGYN thought to have benign endometrial disease, will f/u with
   primary team.  No issues currently.
   # Encephalopathy: Continue lactulose and rifaximin.  Mental status
   appears improved with lactulose and CVVH.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2126-11-11**] 05:15 PM 35 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2126-11-7**] 12:52 PM
   Dialysis Catheter - [**2126-11-8**] 01:28 PM
   Arterial Line - [**2126-11-8**] 08:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 23 minutes
   Patient is critically ill

2126-11-13 06:50:00 Physician Resident Progress Note
Chief Complaint: Epistaxis, end stage liver disease
   24 Hour Events:
   Bladder pressure 20 yesterday
   HCT stable
   foley replaced
   Started gancyclovir for + CMV VL
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Gancyclovir - [**2126-11-12**] 12:45 PM
   Linezolid - [**2126-11-12**] 08:00 PM
   Micafungin - [**2126-11-12**] 08:01 PM
   Metronidazole - [**2126-11-13**] 12:16 AM
   Cefipime - [**2126-11-13**] 06:03 AM
   Infusions:
   Pantoprazole (Protonix) - 8 mg/hour
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   KCl (CRRT) - 2 mEq./hour
   Octreotide - 50 mcg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-11-13**] 06:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.3
C (97.3
   HR: 71 (61 - 78) bpm
   BP: 128/59(83) {105/49(67) - 135/87(97)} mmHg
   RR: 18 (14 - 24) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 105.4 kg (admission): 98.4 kg
   Height: 63 Inch
    Bladder pressure: 22 (22 - 22) mmHg
   Total In:
                                                                  5,351 mL
                                                                  1,309 mL
   PO:
   TF:
                                                                    753 mL
                                                                    239 mL
   IVF:
                                                                  3,778 mL
                                                                  1,010 mL
   Blood products:
                                                                    530 mL
   Total out:
                                                                  8,985 mL
                                                                  1,982 mL
   Urine:
                                                                      7 mL
                                                                      7 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,634 mL
                                                                   -673 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: 7.35/34/227/19/-5
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   69 K/uL
   9.3 g/dL
   113 mg/dL
   0.8 mg/dL
   19 mEq/L
   4.3 mEq/L
   13 mg/dL
   107 mEq/L
   136 mEq/L
   26.7 %
   8.9 K/uL
        [image002.jpg]
                            [**2126-11-11**]  09:31 PM
                            [**2126-11-12**]  04:35 AM
                            [**2126-11-12**]  04:39 AM
                            [**2126-11-12**]  09:46 AM
                            [**2126-11-12**]  10:14 AM
                            [**2126-11-12**]  03:11 PM
                            [**2126-11-12**]  04:18 PM
                            [**2126-11-12**]  09:42 PM
                            [**2126-11-13**]  03:46 AM
                            [**2126-11-13**]  04:25 AM
   WBC
   9.1
   8.9
   Hct
   26.6
   26.1
   26.3
   26.8
   26.4
   26.7
   Plt
   64
   69
   Cr
   0.5
   0.4
   0.5
   0.9
   1.0
   0.8
   TCO2
   21
   19
   19
   20
   Glucose
   119
   131
   148
   152
   150
   113
   Other labs: PT / PTT / INR:32.7/61.0/3.3, ALT / AST:71/151, Alk Phos /
   T Bili:95/49.1, Fibrinogen:108 mg/dL, Lactic Acid:2.0 mmol/L, LDH:295
   IU/L, Ca++:9.7 mg/dL, Mg++:2.8 mg/dL, PO4:1.6 mg/dL
   Assessment and Plan
 HYPOTHERMIA
 IMPAIRED SKIN INTEGRITY
 COAGULOPATHY
 HEPATORENAL SYNDROME
 EPISTAXIS (NOSEBLEED)
   58 year old woman with prolonged hospital course after initial
   admission for lower GI bleeding in the setting of elevated INR and
   decompensated liver failure from cryptogenic / idiopathic cirrhosis now
   transferred back to the MICU for epistaxis.
   # Hypotension, bradycardia:  IMPROVING. Patient hypotensive & newly
   bradycardic with HR 45-60 over the weekend, now improving. Likely
   secondary to ESLD and sepsis. No organism has been identified to date.
   . Currently on Linezolid (day 1 = [**11-10**]), Cefepime (day 1 = [**11-6**]),
   Flagyl (day 1 = [**10-25**]), Micafungin (day 1 = [**11-6**]).  Fungal Markers and
   fungal cultures are both pending.  CMV VL borderline positive.
   - repeat CMV VL, no evidence of end organ damage
   -start gancyclovir
   -f/u ID recs
   - Will monitor MAPs. Start levophed if MAP<60.
   - Continue braod Abx covg as above
   - daily to [**Hospital1 7**] lactate
   # UTI: [**11-7**] Urine culture growing VRE, sensitive to linezolid.
   Currently on Vanc (day 1 = [**11-6**]), Cefepime (day 1 = [**11-6**]), Flagyl
   (day 1 = [**10-25**]), Micafungin (day 1 = [**11-6**]).
   -d/c foley; will need to replace in AM to assess bladder pressures, but
   given UOP of 20cc/day, no need for foley overnight
   -started linezolid
last day [**11-14**]
   -discontinued vancomycin
   -continue cefepime, flagyl, micafungin
   -replace foley -2 units of FFP prior
   # ARF:  patient with Cr 1.0. Bladder pressure 12 this morning.  Per
   renal, urine sediment consistent with ATN, likely not HRS.
   -- restart CVVH: goal negative 50cc/hr for goal of 1L per day, will
   tolerate levophed if necessary to diurese
   -- f/u renal consult
   -- cont midodrine 7.5mg TID
   -- cont Octreotide 100mcg TID
   #. CIRRHOSIS / TRANSPLANT : Continued decompensation.  +coagulopathy
   and NGT were likely cause of epistaxis.  Transplant surgery following
   and stated that surgery is on hold until patient stabilizes from
   infection
pt is still on list, but de-activated.
   - F/U hepatology recs
   - Family mtg today to address code status in relation to transplant
   list
   # Coagulopathy:  likely from known cirrhosis.  INR 4.1. FFP prior to
   foley replacement
   -- f/u q6h HCT
   -- active T&S
   # Epistaxis:  ENT consulted and found +excoriation in bilateral nares,
   likely [**1-28**] NGT and doboff.  Surgicell placed, bleeding currently
   stopped so no need for nasal packing at this time.
   - f/u ENT recs
   - afrin if continues to bleed
   - transfuse if HCT < 25
   #. GI BLEEDING: Secondary to portal hypertension and rectal varices.
   Had moderate sized rectal clot [**11-8**].  Passed maroon stools [**11-11**].
   - Hct Q6H as above depending on blood loss
   #. VAGINAL BLEEDING: Had vaginal bleeding in ICU a few weeks ago,
   evaluated by [**Last Name (LF) 3180**], [**First Name3 (LF) **] f/u with primary team.
   #. ENCEPHALOPATHY: Lactulose, rifaximin (on hold given no NG tube),
   titrate to 3 bowel movements per day.
   FEN: NPO, replete lytes, Tube feeds.
   PPX:
   -DVT ppx with pneumoboots given active bleeding
   -Bowel regimen with lactulose
   -PPI
   ACCESS: PICC
   CODE STATUS: Full code
confirmed with HCP on [**11-11**]
   EMERGENCY CONTACT: [**Name (NI) 215**] (Daughter) [**Telephone/Fax (1) **] / cell [**Telephone/Fax (1) 1278**]
   DISPOSITION: ICU while on CVVH
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2126-11-13**] 03:00 AM 35 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2126-11-7**] 12:52 PM
   Dialysis Catheter - [**2126-11-8**] 01:28 PM
   Arterial Line - [**2126-11-8**] 08:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2126-11-13 11:16:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - Foley placed. Bladder pressure 20.
   - CVVHD
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Gancyclovir - [**2126-11-12**] 12:45 PM
   Micafungin - [**2126-11-12**] 08:01 PM
   Cefipime - [**2126-11-13**] 06:03 AM
   Linezolid - [**2126-11-13**] 07:30 AM
   Metronidazole - [**2126-11-13**] 08:16 AM
   Infusions:
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   Octreotide - 50 mcg/hour
   KCl (CRRT) - 2 mEq./hour
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-11-13**] 11:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 35.9
C (96.7
   HR: 69 (61 - 76) bpm
   BP: 115/50(72) {105/50(71) - 135/87(97)} mmHg
   RR: 16 (14 - 24) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 99.2 kg (admission): 98.4 kg
   Height: 63 Inch
   Bladder pressure: 12 (12 - 22) mmHg
   Total In:
                                                                  5,351 mL
                                                                  2,556 mL
   PO:
   TF:
                                                                    753 mL
                                                                    389 mL
   IVF:
                                                                  3,778 mL
                                                                  1,897 mL
   Blood products:
                                                                    530 mL
   Total out:
                                                                  8,985 mL
                                                                  3,996 mL
   Urine:
                                                                      7 mL
                                                                     12 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,634 mL
                                                                 -1,440 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: 7.39/31/77/19/-4
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : , Diminished: Bases)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.3 g/dL
   69 K/uL
   113 mg/dL
   0.8 mg/dL
   19 mEq/L
   4.3 mEq/L
   13 mg/dL
   107 mEq/L
   136 mEq/L
   27.5 %
   8.9 K/uL
        [image002.jpg]
                            [**2126-11-12**]  04:39 AM
                            [**2126-11-12**]  09:46 AM
                            [**2126-11-12**]  10:14 AM
                            [**2126-11-12**]  03:11 PM
                            [**2126-11-12**]  04:18 PM
                            [**2126-11-12**]  09:42 PM
                            [**2126-11-13**]  03:46 AM
                            [**2126-11-13**]  04:25 AM
                            [**2126-11-13**]  10:01 AM
                            [**2126-11-13**]  10:18 AM
   WBC
   8.9
   Hct
   26.3
   26.8
   26.4
   26.7
   27.5
   Plt
   69
   Cr
   0.5
   0.9
   1.0
   0.8
   TCO2
   21
   19
   19
   20
   19
   Glucose
   148
   152
   150
   113
   Other labs: PT / PTT / INR:32.7/61.0/3.3, ALT / AST:71/151, Alk Phos /
   T Bili:95/49.1, Fibrinogen:108 mg/dL, Lactic Acid:2.0 mmol/L, LDH:295
   IU/L, Ca++:9.7 mg/dL, Mg++:2.8 mg/dL, PO4:1.6 mg/dL
   Imaging: No new imaging.
   Microbiology: No new data.
   Assessment and Plan
   58 year old woman with prolonged hospital course after initial
   admission requiring ICU stay and intubation for lower GI bleeding and
   vaginal bleeding in the setting of elevated INR and decompensated liver
   failure from cryptogenic / idiopathic cirrhosis now transferred back to
   the MICU for epistaxis and oliguria/hypotension/hypothermia.  Unclear
   if source of decompensation is infection vs other, but now deactivated
   on transplant list.
   #Bradycardia/Hypothermia/Hypotension: [**Month (only) 51**] be due to infectious process
   as yet not identified, but now stable to improving.   Cconcern for
   underlying sepsis, perhaps fungemia.
   - Goal MAPs > 55
   - Continue cefepime, flagyl, micafungin epirically
 Day [**8-9**].
   Linezolid for VRE UTI
 Day [**3-31**]
   - F/U glucan/galactomannan. F/U Fungal isolators.
   - F/U all cultures
   - Appreciate ID input
   - Ganciclovir - Day [**2-2**] for CMV per transplant surgery
   - Repeat CMV VL per ID
   # ARF:  Concerning for HRS, but urine sediment more consistent with
   ATN.  On CVVHD.
   - On CVVH - plan to stop tonight. HD holiday tomorrow. Plan for IHD
   Friday.
   - On octreotide and midodrine
   # Cirrhosis: Decompensed ESLD, MELD > 40.  On transplant list, but not
   activated given ongoing active issues.
   - F/U transplant surgery recs
   - F/U hepatology recs
   - Daily bladder pressure
   # Coagulopathy: Likely from known cirrhosis and hypothermia.
   - Q12h Hcts and coags, goal >25
   - FFP, ddAVP, PRBC as needed for bleeding or procedures
   # GI Bleed: Secondary to portal hypertension and rectal varices. No
   active bleeding at this time, although stool occult positive.   - - Hct
   stable over the last couple days
   - Hct Q12H for now
   - On octreotide and PPI gtt
   # Vaginal bleed: Had vaginal bleeding in ICU a few weeks ago, evaluated
   by OBGYN thought to have benign endometrial disease, will f/u with
   primary team.  No issues currently.
   # Encephalopathy: Continue lactulose and rifaximin.  Mental status
   appears improved with lactulose and CVVH.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2126-11-13**] 03:00 AM 35 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2126-11-7**] 12:52 PM
   Dialysis Catheter - [**2126-11-8**] 01:28 PM
   Arterial Line - [**2126-11-8**] 08:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 20 minutes
   Patient is critically ill

2126-11-14 07:26:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   HCT stable yesterday
   CVVH stopped last night
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Gancyclovir - [**2126-11-13**] 12:05 PM
   Linezolid - [**2126-11-13**] 08:02 PM
   Micafungin - [**2126-11-13**] 08:02 PM
   Metronidazole - [**2126-11-14**] 12:00 AM
   Cefipime - [**2126-11-14**] 05:16 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-11-14**] 07:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.1
C (96.9
   HR: 85 (67 - 85) bpm
   BP: 124/57(78) {102/46(65) - 144/90(97)} mmHg
   RR: 18 (14 - 25) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 99.2 kg (admission): 98.4 kg
   Height: 63 Inch
    Bladder pressure: 12 (12 - 12) mmHg
   Total In:
                                                                  4,766 mL
                                                                    596 mL
   PO:
   TF:
                                                                    841 mL
                                                                    259 mL
   IVF:
                                                                  3,535 mL
                                                                    338 mL
   Blood products:
   Total out:
                                                                  6,783 mL
                                                                     10 mL
   Urine:
                                                                     17 mL
                                                                     10 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,017 mL
                                                                    586 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: 7.38/31/80.[**Numeric Identifier 176**]/17/-5
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   45 K/uL
   9.3 g/dL
   105 mg/dL
   0.9 mg/dL
   17 mEq/L
   4.5 mEq/L
   15 mg/dL
   110 mEq/L
   136 mEq/L
   27.1 %
   9.2 K/uL
        [image002.jpg]
                            [**2126-11-12**]  04:18 PM
                            [**2126-11-12**]  09:42 PM
                            [**2126-11-13**]  03:46 AM
                            [**2126-11-13**]  04:25 AM
                            [**2126-11-13**]  10:01 AM
                            [**2126-11-13**]  10:18 AM
                            [**2126-11-13**]  03:47 PM
                            [**2126-11-13**]  03:53 PM
                            [**2126-11-13**]  04:33 PM
                            [**2126-11-14**]  03:39 AM
   WBC
   8.9
   9.2
   Hct
   26.4
   26.7
   27.5
   28.1
   27.1
   Plt
   69
   45
   Cr
   1.0
   0.8
   0.7
   0.9
   TCO2
   19
   20
   19
   19
   Glucose
   150
   113
   125
   115
   105
   Other labs: PT / PTT / INR:46.2/76.1/5.0, ALT / AST:69/144, Alk Phos /
   T Bili:108/43.9, Fibrinogen:108 mg/dL, Lactic Acid:2.0 mmol/L, LDH:295
   IU/L, Ca++:9.6 mg/dL, Mg++:2.6 mg/dL, PO4:1.6 mg/dL
   Assessment and Plan
 HYPOTHERMIA
 IMPAIRED SKIN INTEGRITY
 COAGULOPATHY
 HEPATORENAL SYNDROME
 EPISTAXIS (NOSEBLEED)
   58 year old woman with prolonged hospital course after initial
   admission for lower GI bleeding in the setting of elevated INR and
   decompensated liver failure from cryptogenic / idiopathic cirrhosis now
   transferred back to the MICU for epistaxis, and improving
   hypothermia/hypotension on empiric Abx.
   # Hypotension, bradycardia:  IMPROVING. Patient hypotensive & newly
   bradycardic with HR 45-60 over the weekend, now improving. Likely
   secondary to ESLD and sepsis. No organism has been identified to date.
   . Currently on Linezolid (day 1 = [**11-10**]), Cefepime (day 1 = [**11-6**]),
   Flagyl (day 1 = [**10-25**]), Micafungin (day 1 = [**11-6**]), Ganciclovir
   (d1=[**11-12**]).  Fungal Markers and fungal cultures are both pending.  CMV
   VL borderline positive, rpt pending.
   - continue empiric broad covg for a total of two weeks (unless some cx
   positivity), d1=[**11-6**], today is d7; f/u ID recs
   - continue ganciclovir for total of one week, d1=[**11-12**], today is d2
   - Start levophed if MAP<60.
   - daily lactate
   # UTI: [**11-7**] Urine culture growing VRE, sensitive to linezolid.
   Switched from vanco to to linezolid on [**11-10**], plan to switch back to
   vancomycin after a total of 5d.
   # ARF:  patient with Cr 1.0. Bladder pressure 12 this morning.  Per
   renal, urine sediment consistent with ATN, likely not HRS. BP has
   improved to the degree that CVVH able to remove 300cc/hr. Per renal,
   plan to swithc to HD by Friday.
   -- f/u renal consult
   -- cont midodrine 7.5mg TID
   -- cont Octreotide 100mcg TID
   #. CIRRHOSIS / TRANSPLANT : Continued decompensation, although INR has
   improved. Pt is still on list, but de-activated.
   - F/U hepatology recs
   - Family mtg held on [**11-11**]
   # Coagulopathy, GI bleeding, epistaxis: Coagulopathic [**1-28**] ESLD. Known
   rectal varices. Epistaxis resolved. Still having intermittent maroon
   stools. Intermittent vaginal bleeding (benign biopsy by GYN)
   -- f/u q6h HCT; goal 25
   -- active T&S
   -- FFP for bleeding.
   #. ENCEPHALOPATHY: Lactulose, rifaximin (on hold given no NG tube),
   titrate to 3 bowel movements per day.
   FEN: NPO, replete lytes, Tube feeds.
   PPX:
   -DVT ppx with pneumoboots given active bleeding
   -Bowel regimen with lactulose
   -PPI
   ACCESS: PICC
   CODE STATUS: Full code
confirmed with HCP on [**11-11**]
   EMERGENCY CONTACT: [**Name (NI) 215**] (Daughter) [**Telephone/Fax (1) **] / cell [**Telephone/Fax (1) 1278**]
   DISPOSITION: ICU while on CVVH
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2126-11-13**] 05:16 PM 35 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2126-11-7**] 12:52 PM
   Dialysis Catheter - [**2126-11-8**] 01:28 PM
   Arterial Line - [**2126-11-8**] 08:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2126-11-14 09:17:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - CVVHD stopped last pm
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Gancyclovir - [**2126-11-13**] 12:05 PM
   Linezolid - [**2126-11-13**] 08:02 PM
   Micafungin - [**2126-11-13**] 08:02 PM
   Cefipime - [**2126-11-14**] 05:16 AM
   Metronidazole - [**2126-11-14**] 08:42 AM
   Infusions:
   Octreotide - 50 mcg/hour
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-11-14**] 09:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.4
C (97.6
   HR: 88 (67 - 88) bpm
   BP: 124/57(80) {102/46(65) - 144/90(97)} mmHg
   RR: 19 (14 - 25) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 99.2 kg (admission): 98.4 kg
   Height: 63 Inch
             Total In:
                                                                  4,768 mL
                                                                    984 mL
   PO:
             TF:
                                                                    842 mL
                                                                    323 mL
   IVF:
                                                                  3,536 mL
                                                                    511 mL
   Blood products:
   Total out:
                                                                  6,783 mL
                                                                     10 mL
   Urine:
                                                                     17 mL
                                                                     10 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,015 mL
                                                                    974 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: 7.38/31/80.[**Numeric Identifier 176**]/17/-5
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.3 g/dL
   45 K/uL
   105 mg/dL
   0.9 mg/dL
   17 mEq/L
   4.5 mEq/L
   15 mg/dL
   110 mEq/L
   136 mEq/L
   27.1 %
   9.2 K/uL
        [image002.jpg]
                            [**2126-11-12**]  04:18 PM
                            [**2126-11-12**]  09:42 PM
                            [**2126-11-13**]  03:46 AM
                            [**2126-11-13**]  04:25 AM
                            [**2126-11-13**]  10:01 AM
                            [**2126-11-13**]  10:18 AM
                            [**2126-11-13**]  03:47 PM
                            [**2126-11-13**]  03:53 PM
                            [**2126-11-13**]  04:33 PM
                            [**2126-11-14**]  03:39 AM
   WBC
   8.9
   9.2
   Hct
   26.4
   26.7
   27.5
   28.1
   27.1
   Plt
   69
   45
   Cr
   1.0
   0.8
   0.7
   0.9
   TCO2
   19
   20
   19
   19
   Glucose
   150
   113
   125
   115
   105
   Other labs: PT / PTT / INR:46.2/76.1/5.0, ALT / AST:69/144, Alk Phos /
   T Bili:108/43.9, Fibrinogen:108 mg/dL, Lactic Acid:2.0 mmol/L, LDH:295
   IU/L, Ca++:9.6 mg/dL, Mg++:2.6 mg/dL, PO4:1.6 mg/dL
   Imaging: No new imaging.
   Microbiology: No new culture data.
   Assessment and Plan
   58 year old woman with prolonged hospital course after initial
   admission requiring ICU stay and intubation for lower GI bleeding and
   vaginal bleeding in the setting of elevated INR and decompensated liver
   failure from cryptogenic / idiopathic cirrhosis now transferred back to
   the MICU for epistaxis and oliguria/hypotension/hypothermia.  Unclear
   if source of decompensation is infection vs other, but now deactivated
   on transplant list.
   #Bradycardia/Hypothermia/Hypotension: [**Month (only) 51**] have been due to infectious
   process not identified, but now improving.
   - Goal MAPs > 55
   - Continue cefepime, flagyl, micafungin epirically
 Day [**7-9**].
   Linezolid for VRE UTI
 Day [**4-30**], switch to vanc tomorrow for remainder
   of 2 week course
   - Ganciclovir - Day [**3-2**] for CMV per transplant surgery
   - F/U galactomannan. F/U Fungal isolators.
   - F/U all cultures
   - Appreciate ID input
   # ARF:  Concerning for HRS, but urine sediment more consistent with
   ATN.  On HD.
   - Off CVVH. Plan for IHD iniation Friday.
   - On midodrine
 d/c octreotide
   - F/U renal recs
   # Cirrhosis: Decompensed ESLD, MELD > 40.  On transplant list, but not
   activated given ongoing active issues.
   - F/U transplant surgery recs - Will discuss timing of reactivation
   given improving condition.
   - F/U hepatology recs
   - Daily bladder pressure
   - FFP, ddAVP, PRBC as needed for bleeding or procedures given
   coagulopathy
   # GI Bleed: Secondary to portal hypertension and rectal varices.
   - Hct stable over the last couple days
   - Hct Q12H, Goal > 25
   - On octreotide and PPI gtt
   # Vaginal bleed: Had vaginal bleeding in ICU a few weeks ago, evaluated
   by OBGYN thought to have benign endometrial disease, will f/u with
   primary team.  No issues currently.
   # Encephalopathy: Continue lactulose and rifaximin.  Mental status
   appears improved with lactulose and CVVH.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2126-11-14**] 07:27 AM 35 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2126-11-7**] 12:52 PM
   Dialysis Catheter - [**2126-11-8**] 01:28 PM
   Arterial Line - [**2126-11-8**] 08:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :[**Hospital **]
 transfer to floor tomorrow if tolerates IHD
   Total time spent: 20 minutes
   Patient is critically ill

2126-11-15 07:49:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - octreotide drip stopped yesterday
   - Hct stable
   - HD starts today
   -having some mild vaginal bleeding this morning
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Gancyclovir - [**2126-11-13**] 12:05 PM
   Cefipime - [**2126-11-14**] 05:16 AM
   Linezolid - [**2126-11-14**] 08:00 PM
   Micafungin - [**2126-11-14**] 08:00 PM
   Metronidazole - [**2126-11-15**] 07:20 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-11-15**] 07:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.1
C (97
   HR: 74 (67 - 89) bpm
   BP: 107/53(73) {107/48(67) - 147/126(131)} mmHg
   RR: 19 (14 - 21) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 99.2 kg (admission): 98.4 kg
   Height: 63 Inch
             Total In:
                                                                  2,495 mL
                                                                    479 mL
   PO:
             TF:
                                                                    842 mL
                                                                    271 mL
   IVF:
                                                                  1,373 mL
                                                                    178 mL
   Blood products:
   Total out:
                                                                     35 mL
                                                                      0 mL
   Urine:
                                                                     35 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,460 mL
                                                                    479 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///15/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Warm, Jaundice
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   52 K/uL
   9.8 g/dL
   103 mg/dL
   0.5 mg/dL
   15 mEq/L
   4.6 mEq/L
   28 mg/dL
   109 mEq/L
   135 mEq/L
   29.6 %
   10.7 K/uL
        [image002.jpg]
                            [**2126-11-13**]  03:46 AM
                            [**2126-11-13**]  04:25 AM
                            [**2126-11-13**]  10:01 AM
                            [**2126-11-13**]  10:18 AM
                            [**2126-11-13**]  03:47 PM
                            [**2126-11-13**]  03:53 PM
                            [**2126-11-13**]  04:33 PM
                            [**2126-11-14**]  03:39 AM
                            [**2126-11-14**]  07:34 PM
                            [**2126-11-15**]  04:18 AM
   WBC
   8.9
   9.2
   10.7
   Hct
   26.7
   27.5
   28.1
   27.1
   29.6
   29.6
   Plt
   69
   45
   52
   Cr
   0.8
   0.7
   0.9
   0.5
   TCO2
   20
   19
   19
   Glucose
   113
   125
   115
   105
   103
   Other labs: PT / PTT / INR:55.5/86.6/6.2, ALT / AST:77/162, Alk Phos /
   T Bili:129/44.4, Fibrinogen:108 mg/dL, Lactic Acid:2.0 mmol/L, LDH:295
   IU/L, Ca++:10.1 mg/dL, Mg++:2.8 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
 HYPOTHERMIA
 IMPAIRED SKIN INTEGRITY
 COAGULOPATHY
 HEPATORENAL SYNDROME
 EPISTAXIS (NOSEBLEED)
   58 year old woman with prolonged hospital course after initial
   admission for lower GI bleeding in the setting of elevated INR and
   decompensated liver failure from cryptogenic / idiopathic cirrhosis now
   transferred back to the MICU for epistaxis, and improving
   hypothermia/hypotension on empiric Abx.
   # Hypotension, bradycardia:  resolved. Thought to be secondary to ESLD
   and sepsis. No organism has been identified to date.  . Currently on
   Linezolid (day 1 = [**11-10**]), Cefepime (day 1 = [**11-6**]), Flagyl (day 1 =
   [**10-25**]), Micafungin (day 1 = [**11-6**]), Ganciclovir (d1=[**11-12**]).  Fungal
   Markers and fungal cultures are both pending.  CMV VL borderline
   positive, rpt pending.
   - continue empiric broad covg for a total of two weeks (unless some cx
   positivity), d1=[**11-6**], today is d10; f/u ID recs
   - continue ganciclovir for total of one week, d1=[**11-12**], today is d4
   - Start levophed if MAP<60.
   - daily lactate
   # UTI: [**11-7**] Urine culture growing VRE, sensitive to linezolid.
   Switched from vanco to to linezolid on [**11-10**]. Completed 5 day course.
   -d/c linezolid
   -restart Vancomycin for above broad spectrum coverage
   # ARF:  patient with Cr 1.0. Bladder pressure 12 this morning.  Per
   renal, urine sediment consistent with ATN, likely not HRS. CVVH stopped
   overnight. Per renal, plan to swithc to HD by Friday.
   -- f/u renal recs
   -- cont midodrine 7.5mg TID
   #. CIRRHOSIS / TRANSPLANT : Continued decompensation, although INR has
   improved. Pt is still on list, but de-activated.
   - F/U hepatology recs
   - Family mtg held on [**11-11**]
   # Coagulopathy, GI bleeding, epistaxis: Coagulopathic [**1-28**] ESLD. Known
   rectal varices. Epistaxis resolved. Still having intermittent maroon
   stools. Intermittent vaginal bleeding (benign biopsy by GYN)
   -- f/u q12h HCT; goal 25
   -- active T&S
   -- FFP for bleeding.
   #. ENCEPHALOPATHY: Lactulose, rifaximin (on hold given no NG tube),
   titrate to 3 bowel movements per day.
   FEN: NPO, replete lytes, Tube feeds.
   PPX:
   -DVT ppx with pneumoboots given active bleeding
   -Bowel regimen with lactulose
   -PPI
   ACCESS: PICC, PIV
   CODE STATUS: Full code
confirmed with HCP on [**11-11**]
   EMERGENCY CONTACT: [**Name (NI) 215**] (Daughter) [**Telephone/Fax (1) **] / cell [**Telephone/Fax (1) 1278**]
   DISPOSITION: ICU pending HD
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2126-11-14**] 09:42 PM 35 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2126-11-7**] 12:52 PM
   Dialysis Catheter - [**2126-11-8**] 01:28 PM
   Arterial Line - [**2126-11-8**] 08:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2126-11-15 10:10:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - Vaginal bleeding
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Gancyclovir - [**2126-11-13**] 12:05 PM
   Cefipime - [**2126-11-14**] 05:16 AM
   Micafungin - [**2126-11-14**] 08:00 PM
   Metronidazole - [**2126-11-15**] 07:20 AM
   Linezolid - [**2126-11-15**] 09:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-11-15**] 10:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.6
C (97.8
   HR: 72 (67 - 89) bpm
   BP: 108/51(68) {107/48(67) - 147/126(131)} mmHg
   RR: 17 (14 - 26) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 99.2 kg (admission): 98.4 kg
   Height: 63 Inch
   Bladder pressure: 15 (15 - 15) mmHg
   Total In:
                                                                  2,495 mL
                                                                    970 mL
   PO:
   TF:
                                                                    842 mL
                                                                    350 mL
   IVF:
                                                                  1,373 mL
                                                                    500 mL
   Blood products:
   Total out:
                                                                     35 mL
                                                                      0 mL
   Urine:
                                                                     35 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,460 mL
                                                                    970 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///15/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   HEENT: MMM
   Cardiac: RRR
   Pulmonary: Bilateral expiratory wheezing, decreased at bases
   Abd: Distended, NT, +BS, Bladder pressure 15
   Extremities: Improving edema
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.8 g/dL
   52 K/uL
   103 mg/dL
   0.5 mg/dL
   15 mEq/L
   4.6 mEq/L
   28 mg/dL
   109 mEq/L
   135 mEq/L
   29.6 %
   10.7 K/uL
        [image002.jpg]
                            [**2126-11-13**]  03:46 AM
                            [**2126-11-13**]  04:25 AM
                            [**2126-11-13**]  10:01 AM
                            [**2126-11-13**]  10:18 AM
                            [**2126-11-13**]  03:47 PM
                            [**2126-11-13**]  03:53 PM
                            [**2126-11-13**]  04:33 PM
                            [**2126-11-14**]  03:39 AM
                            [**2126-11-14**]  07:34 PM
                            [**2126-11-15**]  04:18 AM
   WBC
   8.9
   9.2
   10.7
   Hct
   26.7
   27.5
   28.1
   27.1
   29.6
   29.6
   Plt
   69
   45
   52
   Cr
   0.8
   0.7
   0.9
   0.5
   TCO2
   20
   19
   19
   Glucose
   113
   125
   115
   105
   103
   Other labs: PT / PTT / INR:55.5/86.6/6.2, ALT / AST:77/162, Alk Phos /
   T Bili:129/44.4, Fibrinogen:108 mg/dL, Lactic Acid:2.0 mmol/L, LDH:295
   IU/L, Ca++:10.1 mg/dL, Mg++:2.8 mg/dL, PO4:2.4 mg/dL
   Imaging: No new imaging.
   Microbiology: Negative to date.
   Assessment and Plan
   58 year old woman with prolonged hospital course after initial
   admission requiring ICU stay and intubation for lower GI bleeding and
   vaginal bleeding in the setting of elevated INR and decompensated liver
   failure from cryptogenic / idiopathic cirrhosis now transferred back to
   the MICU for epistaxis and oliguria/hypotension/hypothermia.  Unclear
   if source of decompensation is infection vs other, but now deactivated
   on transplant list.  Close to being reactivated.
   #Empiric antibiotics:
   - Continue vanc,cefepime, flagyl, micafungin epirically
 Day [**8-9**].
   - s/p 5 days of Linezolid for VRE UTI
   - Ganciclovir - Day [**4-2**] for CMV per transplant surgery
   - F/U all cultures
   - Appreciate ID input
   # ARF:  Concerning for HRS, but urine sediment more consistent with
   ATN.  On HD.
   - Plan for first session of IHD Friday
   - On midodrine
   - F/U renal recs
   # Wheezing: prn nebs.
   # Cirrhosis: Decompensed ESLD, MELD > 40.  On transplant list, but
   deactivated given issues that are now resolved
 may be activated in
   next day or two.
   - F/U transplant surgery recs - Will discuss timing of reactivation
   given improving condition.
   - F/U hepatology recs
   - Daily bladder pressure
   - FFP to keep INR at 3 or below, ddAVP, PRBC as needed for bleeding or
   procedures given coagulopathy
   # GI Bleed: Secondary to portal hypertension and rectal varices.
   - Hct stable over the last couple days
   - Hct Q12H, Goal > 25
   - On PPI
   # Vaginal bleed: Had vaginal bleeding in ICU a few weeks ago, evaluated
   by OBGYN thought to have benign endometrial disease.  Now started
   bleeding again.  Hct stable.
   - Continue PO vit K, but may not be working given lack of clotting
   factors
   - Observation
   # Encephalopathy: Continue lactulose and rifaximin.  Mental status
   appears improved with lactulose and CVVH.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2126-11-14**] 09:42 PM 35 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2126-11-7**] 12:52 PM
   Dialysis Catheter - [**2126-11-8**] 01:28 PM
   Arterial Line - [**2126-11-8**] 08:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor if tolerates HD today
   Total time spent: 25 minutes

2126-11-16 05:58:00 Physician Resident Progress Note
Chief Complaint: End stage liver disease
   24 Hour Events:
   1st HD today. Had 600cc removed only because of hypotension.
   Gave 2u FFP for elevated coags
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Linezolid - [**2126-11-15**] 09:00 AM
   Cefipime - [**2126-11-15**] 03:01 PM
   Vancomycin - [**2126-11-15**] 05:30 PM
   Gancyclovir - [**2126-11-15**] 06:30 PM
   Metronidazole - [**2126-11-15**] 08:34 PM
   Micafungin - [**2126-11-15**] 10:08 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2126-11-15**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-11-16**] 05:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.6
C (97.8
   HR: 75 (67 - 82) bpm
   BP: 112/51(67) {93/41(56) - 131/65(85)} mmHg
   RR: 17 (12 - 26) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 99.2 kg (admission): 98.4 kg
   Height: 63 Inch
    Bladder pressure: 15 (15 - 15) mmHg
   Total In:
                                                                  2,772 mL
                                                                    329 mL
   PO:
   TF:
                                                                    846 mL
                                                                    209 mL
   IVF:
                                                                  1,052 mL
                                                                     60 mL
   Blood products:
                                                                    564 mL
   Total out:
                                                                     10 mL
                                                                      0 mL
   Urine:
                                                                     10 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,762 mL
                                                                    329 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///15/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   41 K/uL
   9.3 g/dL
   100 mg/dL
   0.5 mg/dL
   15 mEq/L
   4.2 mEq/L
   28 mg/dL
   107 mEq/L
   135 mEq/L
   29.3 %
   10.7 K/uL
        [image002.jpg]
                            [**2126-11-13**]  10:01 AM
                            [**2126-11-13**]  10:18 AM
                            [**2126-11-13**]  03:47 PM
                            [**2126-11-13**]  03:53 PM
                            [**2126-11-13**]  04:33 PM
                            [**2126-11-14**]  03:39 AM
                            [**2126-11-14**]  07:34 PM
                            [**2126-11-15**]  04:18 AM
                            [**2126-11-15**]  07:17 PM
                            [**2126-11-16**]  03:21 AM
   WBC
   9.2
   10.7
   10.7
   Hct
   27.5
   28.1
   27.1
   29.6
   29.6
   28.3
   29.3
   Plt
   45
   52
   41
   Cr
   0.7
   0.9
   0.5
   0.5
   TCO2
   19
   19
   Glucose
   125
   115
   105
   103
   100
   Other labs: PT / PTT / INR:41.3/68.0/4.4, ALT / AST:224/559, Alk Phos /
   T Bili:141/42.0, Fibrinogen:108 mg/dL, Lactic Acid:2.0 mmol/L, LDH:508
   IU/L, Ca++:10.6 mg/dL, Mg++:3.0 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
 CIRRHOSIS OF LIVER, OTHER
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HYPOTHERMIA
 IMPAIRED SKIN INTEGRITY
 COAGULOPATHY
 HEPATORENAL SYNDROME
 EPISTAXIS (NOSEBLEED)
   58 year old woman with prolonged hospital course after initial
   admission for lower GI bleeding in the setting of elevated INR and
   decompensated liver failure from cryptogenic / idiopathic cirrhosis now
   transferred back to the MICU for epistaxis, and improving
   hypothermia/hypotension on empiric Abx.
   # Hypotension, bradycardia:  resolved. Thought to be secondary to ESLD
   and sepsis. No organism has been identified to date.  . Currently on
   Linezolid (day 1 = [**11-10**]), Cefepime (day 1 = [**11-6**]), Flagyl (day 1 =
   [**10-25**]), Micafungin (day 1 = [**11-6**]), Ganciclovir (d1=[**11-12**]).  Fungal
   Markers and fungal cultures are both pending.  CMV VL borderline
   positive, rpt pending.
   - continue empiric broad covg for a total of two weeks (unless some cx
   positivity), d1=[**11-6**], today is d10; f/u ID recs
   - continue ganciclovir for total of one week, d1=[**11-12**], today is d4
   - Start levophed if MAP<60.
   - daily lactate
   # UTI: [**11-7**] Urine culture growing VRE, sensitive to linezolid.
   Switched from vanco to to linezolid on [**11-10**]. Completed 5 day course.
   -d/c linezolid
   -restart Vancomycin for above broad spectrum coverage
   # ARF:  patient with Cr 1.0. Bladder pressure 12 this morning.  Per
   renal, urine sediment consistent with ATN, likely not HRS. CVVH stopped
   overnight. Per renal, plan to swithc to HD by Friday.
   -- f/u renal recs
   -- cont midodrine 7.5mg TID
   #. CIRRHOSIS / TRANSPLANT : Continued decompensation, although INR has
   improved. Pt is still on list, but de-activated.
   - F/U hepatology recs
   - Family mtg held on [**11-11**]
   # Coagulopathy, GI bleeding, epistaxis: Coagulopathic [**1-28**] ESLD. Known
   rectal varices. Epistaxis resolved. Still having intermittent maroon
   stools. Intermittent vaginal bleeding (benign biopsy by GYN)
   -- f/u q12h HCT; goal 25
   -- active T&S
   -- FFP for bleeding.
   #. ENCEPHALOPATHY: Lactulose, rifaximin (on hold given no NG tube),
   titrate to 3 bowel movements per day.
   FEN: NPO, replete lytes, Tube feeds.
   PPX:
   -DVT ppx with pneumoboots given active bleeding
   -Bowel regimen with lactulose
   -PPI
   ACCESS: PICC, PIV
   CODE STATUS: Full code
confirmed with HCP on [**11-11**]
   EMERGENCY CONTACT: [**Name (NI) 215**] (Daughter) [**Telephone/Fax (1) **] / cell [**Telephone/Fax (1) 1278**]
   DISPOSITION: ICU pending HD
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2126-11-16**] 02:04 AM 35 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2126-11-7**] 12:52 PM
   Dialysis Catheter - [**2126-11-8**] 01:28 PM
   Arterial Line - [**2126-11-8**] 08:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2126-11-16 11:54:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   58 year old woman with cryptogenic cirrhosis, initially admitted w/
   GIB, readmitted with epistaxis and concomittant oliguric renal failure
   and SIRS. Presumed sepsis and CMV reactivation as well as HRS.
   24 Hour Events:
   Rising LFTs today and hypotension w/ pressor dependence precluding HD
   session yest
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Linezolid - [**2126-11-15**] 09:00 AM
   Vancomycin - [**2126-11-15**] 05:30 PM
   Gancyclovir - [**2126-11-15**] 06:30 PM
   Micafungin - [**2126-11-15**] 10:08 PM
   Cefipime - [**2126-11-16**] 07:00 AM
   Metronidazole - [**2126-11-16**] 08:00 AM
   Infusions:
   Norepinephrine - 0.04 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2126-11-15**] 10:00 PM
   Other medications:
   Rifaximin, Vit K, ursodiol, vit D, lidocaine, micafungin, midodrine,
   nystatin, cefepime, protonix, Flagyl, MVI
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-11-16**] 11:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 35.6
C (96.1
   HR: 87 (68 - 87) bpm
   BP: 116/57(75) {81/37(49) - 131/65(85)} mmHg
   RR: 18 (12 - 19) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 105.4 kg (admission): 98.4 kg
   Height: 63 Inch
             Total In:
                                                                  2,772 mL
                                                                    804 mL
   PO:
             TF:
                                                                    846 mL
                                                                    404 mL
   IVF:
                                                                  1,052 mL
                                                                    280 mL
   Blood products:
                                                                    564 mL
   Total out:
                                                                     10 mL
                                                                      0 mL
   Urine:
                                                                     10 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,762 mL
                                                                    804 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///15/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right lower extremity edema: 3+, Left lower extremity
   edema: 3+
   Skin:  Warm, Jaundice, oozing blood from HD cath site
   Neurologic: No(t) Attentive, Follows simple commands, Responds to:
   Verbal stimuli, Movement: Not assessed, Tone: Not assessed, lethargic
   Labs / Radiology
   9.3 g/dL
   41 K/uL
   100 mg/dL
   0.5 mg/dL
   15 mEq/L
   4.2 mEq/L
   28 mg/dL
   107 mEq/L
   135 mEq/L
   29.3 %
   10.7 K/uL
        [image002.jpg]
                            [**2126-11-13**]  10:01 AM
                            [**2126-11-13**]  10:18 AM
                            [**2126-11-13**]  03:47 PM
                            [**2126-11-13**]  03:53 PM
                            [**2126-11-13**]  04:33 PM
                            [**2126-11-14**]  03:39 AM
                            [**2126-11-14**]  07:34 PM
                            [**2126-11-15**]  04:18 AM
                            [**2126-11-15**]  07:17 PM
                            [**2126-11-16**]  03:21 AM
   WBC
   9.2
   10.7
   10.7
   Hct
   27.5
   28.1
   27.1
   29.6
   29.6
   28.3
   29.3
   Plt
   45
   52
   41
   Cr
   0.7
   0.9
   0.5
   0.5
   TCO2
   19
   19
   Glucose
   125
   115
   105
   103
   100
   Other labs: PT / PTT / INR:41.3/68.0/4.4, ALT / AST:224/559, Alk Phos /
   T Bili:141/42.0, Fibrinogen:108 mg/dL, Lactic Acid:2.0 mmol/L, LDH:508
   IU/L, Ca++:10.6 mg/dL, Mg++:3.0 mg/dL, PO4:3.5 mg/dL
   Microbiology: C diff- neg
   Blood- all neg
   Urine- all neg since [**11-7**] VRE
   CMV VL- < 600 ([**11-11**])
   Assessment and Plan
   58 year old woman with cryptogenic cirrhosis, initially admitted w/
   GIB, readmitted with epistaxis and concomittant oliguric renal failure
   and SIRS. Presumed sepsis and CMV reactivation as well as HRS.
   Deactivated on transplant list but close to being reactivated.
   Hypotension- Hct stable though with HD cath site bleeding, also
   considering sepsis. Doubt hypovolemia given fluid balance and exam
   findings
   - Continue empiris vanc,cefepime, flagyl, micafungin epirically
   - s/p 5 days of Linezolid for VRE UTI
   - ganciclovir for CMV per transplant surgery
   - F/U all cultures, repeat CXR today and attempt repeat paracent
   - f/u ID recs
   ARF- concerning for HRS vst ATN
   - did not tol HD on Friday, f/u re: RRT today
   - cont midodrine
   - f/u renal recs
   Cirrhosis- Decompensed ESLD, MELD > 40.  On transplant list, but
   deactivated given issues that are now resolved
 may be activated in
   next day or two.
   - F/U transplant surgery recs - Will discuss timing of reactivation
   given improving condition.
   - F/U hepatology recs
   - Daily bladder pressure
   - FFP to keep INR at 3 or below, vit K, ddAVP, PRBC as needed for
   bleeding or procedures given coagulopathy
   - cont lactulose and rifaximin
   GI Bleed- Secondary to portal hypertension and rectal varices.
   - Hct stable over the last couple days
   - Hct Q12H, Goal > 25
   - On PPI
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2126-11-16**] 02:04 AM 35 mL/hour
   Glycemic Control:  Blood sugar well controlled
   Lines:
   PICC Line - [**2126-11-7**] 12:52 PM
   Dialysis Catheter - [**2126-11-8**] 01:28 PM
   Arterial Line - [**2126-11-8**] 08:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   CC: hypotension
   58 yo W with septic shock, cryptogenic cirrhosis with decompensated
   ESLD, acute on chronic renal failure, GI bleed (now inactive), DIC
   No respiratory failure.
   Unclear source of infection. Doubt lung. Functionally immunocompromised
   with CMV viremia. Diagnostic para done, results pending. Empirical
   vanc,cefepime, flagyl, micafungin and continuing ganciclovir.
   82/42 95 94%
   No distress, PERRL, lungs clear, RRR, abd distended but soft, HD
   catheter site oozing, 3+ LE edema symmetric. Sleepy but follows
   commands.
   Ascites with initially markedly elevated bladder pressure.
   Renal, hepatology, transplant following.
   Abx for possible septic shock.
   FFP and products for oozing, remains at risk for recurrent GI bleed.
   See Dr [**Last Name (STitle) 5199**]
s and MICU resident note for further details.
   35 minutes, critically ill
   ------ Protected Section Addendum Entered By:[**Name (NI) 457**] [**Last Name (NamePattern1) **], MD
   on:[**2126-11-16**] 18:56 ------

2126-11-17 07:39:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2126-11-16**] 12:30 PM
   from HD line.
 BLOOD CULTURED - At [**2126-11-16**] 12:30 PM
   from PICC line.
 URINE CULTURE - At [**2126-11-16**] 01:00 PM
   diluted d/t bladder pressure.
 ULTRASOUND - At [**2126-11-16**] 04:00 PM
   Gallbladder.
   Patient hypotensive yesterday morning, now on levophed.  Blood
   cultures, UA/UCx sent.  CXR done which is stable.  Diagnostic para was
   done which showed 144 WBC.
   Bladder pressures 18 - 15 overnight.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Linezolid - [**2126-11-15**] 09:00 AM
   Vancomycin - [**2126-11-15**] 05:30 PM
   Gancyclovir - [**2126-11-15**] 06:30 PM
   Cefipime - [**2126-11-16**] 07:00 AM
   Metronidazole - [**2126-11-16**] 07:28 PM
   Micafungin - [**2126-11-16**] 09:00 PM
   Infusions:
   Norepinephrine - 0.04 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-11-17**] 07:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.5
C (97.7
   HR: 94 (75 - 104) bpm
   BP: 96/49(62) {80/37(49) - 131/61(326)} mmHg
   RR: 20 (14 - 22) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 105.4 kg (admission): 98.4 kg
   Height: 63 Inch
    Bladder pressure: 15 (15 - 18) mmHg
   Total In:
                                                                  2,478 mL
                                                                    365 mL
   PO:
   TF:
                                                                    841 mL
                                                                    264 mL
   IVF:
                                                                    546 mL
                                                                    100 mL
   Blood products:
                                                                    791 mL
   Total out:
                                                                     55 mL
                                                                      0 mL
   Urine:
                                                                      5 mL
   NG:
   Stool:
   Drains:
                                                                     50 mL
   Balance:
                                                                  2,423 mL
                                                                    365 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///11/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   53 K/uL
   8.7 g/dL
   86 mg/dL
   1.0 mg/dL
   11 mEq/L
   5.0 mEq/L
   35 mg/dL
   107 mEq/L
   136 mEq/L
   27.6 %
   13.8 K/uL
        [image002.jpg]
                            [**2126-11-13**]  03:47 PM
                            [**2126-11-13**]  03:53 PM
                            [**2126-11-13**]  04:33 PM
                            [**2126-11-14**]  03:39 AM
                            [**2126-11-14**]  07:34 PM
                            [**2126-11-15**]  04:18 AM
                            [**2126-11-15**]  07:17 PM
                            [**2126-11-16**]  03:21 AM
                            [**2126-11-16**]  07:13 PM
                            [**2126-11-17**]  03:50 AM
   WBC
   9.2
   10.7
   10.7
   13.8
   Hct
   28.1
   27.1
   29.6
   29.6
   28.3
   29.3
   27.2
   27.6
   Plt
   45
   52
   41
   53
   Cr
   0.9
   0.5
   0.5
   1.0
   TCO2
   19
   Glucose
   115
   105
   103
   100
   86
   Other labs: PT / PTT / INR:42.1/63.6/4.5, ALT / AST:[**Telephone/Fax (1) 11697**], Alk Phos
   / T Bili:150/43.0, Fibrinogen:87 mg/dL, Lactic Acid:2.0 mmol/L, LDH:740
   IU/L, Ca++:11.4 mg/dL, Mg++:3.0 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
 CIRRHOSIS OF LIVER, OTHER
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 .H/O FUNGAL INFECTION, OTHER
 HYPOTHERMIA
 IMPAIRED SKIN INTEGRITY
 COAGULOPATHY
 HEPATORENAL SYNDROME
 EPISTAXIS (NOSEBLEED)
   58 year old woman with prolonged hospital course after initial
   admission for lower GI bleeding in the setting of elevated INR and
   decompensated liver failure from cryptogenic / idiopathic cirrhosis now
   transferred back to the MICU for epistaxis, and improving
   hypothermia/hypotension on empiric Abx.
   # Hypotension:  Patient on pressors again this morning. Thought to be
   secondary to ESLD and sepsis. No organism has been identified to date.
   . Currently on Linezolid (day 1 = [**11-10**]), Cefepime (day 1 = [**11-6**]),
   Flagyl (day 1 = [**10-25**]), Micafungin (day 1 = [**11-6**]), Ganciclovir
   (d1=[**11-12**]).  Fungal Markers and fungal cultures are both pending.  CMV
   VL borderline positive, rpt negative
   - continue empiric broad covg for a total of two weeks (unless some cx
   positivity), d1=[**11-6**], today is d10; f/u ID recs
   - continue ganciclovir for total of one week, d1=[**11-12**], today is d4
   - cont levophed for goal MAP > 60.
   - daily lactate
   - diagnostic paracentesis today
   - RUQ U/S today
   - resend UA/UCx, Blood Cx
   # ARF:  patient with Cr 1.0. Bladder pressure 18 this morning.  Per
   renal, urine sediment consistent with ATN, likely not HRS. CVVH stopped
   2 days ago, attempt at HD yesterday not successful as patient became
   hypotensive, now on pressors.  Plan is for HD today without fluid
   removal
   -- f/u renal recs
   -- cont midodrine 10mg TID
   # UTI: [**11-7**] Urine culture growing VRE, sensitive to linezolid.
   Switched from vanco to to linezolid on [**11-10**]. Completed 5 day course.
   #. CIRRHOSIS / TRANSPLANT : Pt is still on transplant list, but
   de-activated.
   - F/U hepatology recs
   - Family mtg held on [**11-11**]
   # Coagulopathy, GI bleeding, epistaxis: Coagulopathic [**1-28**] ESLD. Known
   rectal varices. Epistaxis resolved. Still having intermittent maroon
   stools. Intermittent vaginal bleeding (benign biopsy by GYN).  Patient
   with bleeding from HD line this morning, will give 2uFFP,
   cryoprecipitate
   -- f/u q12h HCT; goal 25
   -- active T&S
   -- 2u FFP
   - 1u cryoprecipitate
   #. ENCEPHALOPATHY: Lactulose, rifaximin (on hold given no NG tube),
   titrate to 3 bowel movements per day.
   FEN: NPO, replete lytes, Tube feeds.
   PPX:
   -DVT ppx with pneumoboots given active bleeding
   -Bowel regimen with lactulose
   -PPI
   ACCESS: PICC
   CODE STATUS: Full code
confirmed with HCP on [**11-11**]
   EMERGENCY CONTACT: [**Name (NI) 215**] (Daughter) [**Telephone/Fax (1) **] / cell [**Telephone/Fax (1) 1278**]
   DISPOSITION: ICU pending HD
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2126-11-17**] 06:38 AM 35 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2126-11-7**] 12:52 PM
   Dialysis Catheter - [**2126-11-8**] 01:28 PM
   Arterial Line - [**2126-11-8**] 08:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2126-11-17 11:22:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   58 year old woman with cryptogenic cirrhosis, initially admitted w/
   GIB, readmitted with epistaxis and concomittant oliguric renal failure
   and SIRS. Presumed septic shock and CMV reactivation as well as HRS.
   Deactivated on transplant list but close to being reactivated.
   24 Hour Events:
   pressors stable yesterday. HD deferred. Diag paracentesis performed.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Linezolid - [**2126-11-15**] 09:00 AM
   Vancomycin - [**2126-11-15**] 05:30 PM
   Gancyclovir - [**2126-11-15**] 06:30 PM
   Cefipime - [**2126-11-16**] 07:00 AM
   Micafungin - [**2126-11-16**] 09:00 PM
   Metronidazole - [**2126-11-17**] 08:00 AM
   Infusions:
   Norepinephrine - 0.1 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Rifaximin, vit K, ursodiol, lidocaine, vit D, micafungin, midodrine,
   nystatin, lactulose, cefepime, protonix
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-11-17**] 11:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.3
C (97.3
   HR: 87 (82 - 104) bpm
   BP: 95/44(60) {80/40(53) - 131/61(326)} mmHg
   RR: 17 (17 - 22) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 106.1 kg (admission): 98.4 kg
   Height: 63 Inch
   Bladder pressure: 15 (15 - 18) mmHg
   Total In:
                                                                  2,478 mL
                                                                    713 mL
   PO:
   TF:
                                                                    841 mL
                                                                    383 mL
   IVF:
                                                                    546 mL
                                                                    270 mL
   Blood products:
                                                                    791 mL
   Total out:
                                                                     55 mL
                                                                      0 mL
   Urine:
                                                                      5 mL
   NG:
   Stool:
   Drains:
                                                                     50 mL
   Balance:
                                                                  2,423 mL
                                                                    713 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: 7.27/25/113/11/-13
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, cont'd oozing HD cath site
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: bases)
   Abdominal: No(t) Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Not assessed, Jaundice
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed, obtunded, less responsive today
   Labs / Radiology
   8.7 g/dL
   53 K/uL
   86 mg/dL
   1.0 mg/dL
   11 mEq/L
   5.0 mEq/L
   35 mg/dL
   107 mEq/L
   136 mEq/L
   27.6 %
   13.8 K/uL
        [image002.jpg]
                            [**2126-11-13**]  03:53 PM
                            [**2126-11-13**]  04:33 PM
                            [**2126-11-14**]  03:39 AM
                            [**2126-11-14**]  07:34 PM
                            [**2126-11-15**]  04:18 AM
                            [**2126-11-15**]  07:17 PM
                            [**2126-11-16**]  03:21 AM
                            [**2126-11-16**]  07:13 PM
                            [**2126-11-17**]  03:50 AM
                            [**2126-11-17**]  10:39 AM
   WBC
   9.2
   10.7
   10.7
   13.8
   Hct
   28.1
   27.1
   29.6
   29.6
   28.3
   29.3
   27.2
   27.6
   Plt
   45
   52
   41
   53
   Cr
   0.9
   0.5
   0.5
   1.0
   TCO2
   19
   12
   Glucose
   105
   103
   100
   86
   Other labs: PT / PTT / INR:42.1/63.6/4.5, ALT / AST:[**Telephone/Fax (1) 11697**], Alk Phos
   / T Bili:150/43.0, Fibrinogen:87 mg/dL, Lactic Acid:7.2 mmol/L, LDH:740
   IU/L, Ca++:11.4 mg/dL, Mg++:3.0 mg/dL, PO4:4.0 mg/dL
   Fluid analysis / Other labs: Paracent- total WBCS 144
   Imaging: RUQ US- GB neck stone
   Microbiology: Paracent cx pending
   Repeat CMV VL- neg
   Assessment and Plan
   58 year old woman with cryptogenic cirrhosis, initially admitted w/
   GIB, readmitted with epistaxis and concomittant oliguric renal failure
   and SIRS. Possible CMV reactivation and HRS. Now with presumed septic
   shock. Deactivated on transplant list but close to being reactivated.
   Presumed septic shock- unclear source and broadly covered. worried
   about possible bowel ischemia
   - Continue empiric vanc,cefepime, flagyl, micafungin epirically
   - s/p 5 days of Linezolid for VRE UTI
   - ganciclovir for CMV per transplant surgery
   - F/U all cultures
   - f/u ID recs
   ARF- concerning for HRS vst ATN
   - did not tol HD on Friday, deferred on Sat for hypotension
   - cont midodrine
   - resume CVVH today
   Cirrhosis- Decompensed ESLD, MELD > 40.  On transplant list, but
   deactivated given issues that are now resolved. Anticipate discussion
   w/ pt's family and consultants given repeated decline
   - F/U transplant surgery recs
   - F/U hepatology recs
   - Daily bladder pressure
   - FFP to keep INR at 3 or below, vit K, ddAVP, PRBC as needed for
   bleeding or procedures given coagulopathy
   - cont lactulose and rifaximin
   GI Bleed- Secondary to portal hypertension and rectal varices.
   - Hct stable over the last couple days
   - Hct Q12H, Goal > 25
   - On PPI
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2126-11-17**] 06:38 AM 35 mL/hour
   Glycemic Control:  Blood sugar well controlled
   Lines:
   PICC Line - [**2126-11-7**] 12:52 PM
   Dialysis Catheter - [**2126-11-8**] 01:28 PM
   Arterial Line - [**2126-11-8**] 08:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Family meeting held  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan.
   ------ Protected Section Addendum Entered By:[**Name (NI) 453**] [**Last Name (NamePattern1) **], MD
   on:[**2126-11-17**] 16:24 ------